2118-01-03 08:27:00 Physician Attending Progress Note
Chief Complaint: Exertional Dyspnea
   HPI:
   Please see admit note for full history.
   24 Hour Events:
   Admitted to ICU
   Seen by renal , hematology and blood bank teams.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, No(t) Tachypnea
   Flowsheet Data as of  [**2118-1-3**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 71 (71 - 84) bpm
   BP: 130/73(86) {130/72(86) - 176/100(117)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     50 mL
                                                                    325 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                     50 mL
                                                                    325 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.42/29/74/15/-3
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   40 K/uL
   200 mg/dL
   6.6 mg/dL
   15 mEq/L
   5.5 mEq/L
   118 mg/dL
   103 mEq/L
   136 mEq/L
   28.0 %
   5.4 K/uL
        [image002.jpg]
                            [**2118-1-2**]  11:07 PM
                             [**2118-1-3**]  01:05 AM
                             [**2118-1-3**]  05:23 AM
   WBC
   6.6
   5.4
   Hct
   22.7
   28.0
   Plt
   40
   40
   Cr
   6.1
   6.6
   TCO2
   19
   Glucose
   104
   200
   Other labs: PT / PTT / INR:30.0/67.5/3.1, ALT / AST:282/277, Alk Phos /
   T Bili:153/0.9, Lactic Acid:1.0 mmol/L, LDH:2302 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.7 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   s/p PRBC and now getting 2 U FFP
   Potential plasmapheresis today
   Currently NPO and coumadin held.
   Methylprednisone 500/daily
   Once line is in place plane IV heparin for INR < 3. 0
   Renal Failure -
   Possible graft rejection, getting pulse dose steroids. Renal following
   for possible RRT. [**Name (NI) **] place catheter today. Continue with Sirolimus
   5mg po daily follow levels
   Myfotic 720 Oral [**Hospital1 **]
   Anemia -
   Hemolytic anemia - bumped appropriately, plan as above.
   Htn -
   Norvasc , labetolol
   Psych -
   Home regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-1-2**] 10:32 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: none
   VAP: Not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU pending stabilization of Hct, plts
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-03 11:32:00 Physician Resident Progress Note
Chief Complaint: hemolytic anemia, thrombocytopenia, acute renal
   failure
   24 Hour Events:
   - ABG demonstrated acute metabolic acidosis with respiratory
   compensation; normal lactate
   - received 1 unit pRBCs
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2118-1-3**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 69 (69 - 84) bpm
   BP: 144/78(94) {120/61(75) - 176/100(117)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     50 mL
                                                                    405 mL
   PO:
                  80 mL
   TF:
   IVF:
   Blood products:
                                                                     50 mL
                                                                    325 mL
   Total out:
                                                                    200 mL
                                                                    100 mL
   Urine:
                                                                    200 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -150 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.42/29/74/15/-3
   Physical Examination
   General: well-appearing mildly anxious thin woman lying comfortably in
   bed
   Neck: supple, no cervical or supraclavicular lymphadenopathy
   Chest: bibasilar rales 3 inches up both bases; no wheezes or ronchi
   CV: regular rate/rhythm, II/VI systolic murmur at RUSB, no rubs/gallops
   Abdomen: soft, nontender, nondistended, normal bowel sounds, no
   HSM/masses, renal graft palpable and nontender in RLQ
   Extr: no edema, 2+ PT pulses, no clubbing or cyanosis
   Skin: no rashes, jaundice, petechiae, ecchymoses, or purpura
   Neuro: alert, oriented x3, CN 2-12 intact (PERRL/EOMI)
   Labs / Radiology
   40 K/uL
   10.2 g/dL
   200 mg/dL
   6.6 mg/dL
   15 mEq/L
   5.5 mEq/L
   118 mg/dL
   103 mEq/L
   136 mEq/L
   28.0 %
   5.4 K/uL
        [image002.jpg]
                            [**2118-1-2**]  11:07 PM
                             [**2118-1-3**]  01:05 AM
                             [**2118-1-3**]  05:23 AM
   WBC
   6.6
   5.4
   Hct
   22.7
   28.0
   Plt
   40
   40
   Cr
   6.1
   6.6
   TCO2
   19
   Glucose
   104
   200
   Other labs: PT / PTT / INR:30.0/67.5/3.1, ALT / AST:282/277, Alk Phos /
   T Bili:153/0.9, Lactic Acid:1.0 mmol/L, LDH:2302 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.7 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   Assessment:
   54 year old woman with anticardiolipin antibody syndrome and prior
   thrombotic microangiopathic hemolytic anemia (TMA) with resultant ESRD
   s/p renal transplant now with likely recurrent TTP/TMA and acute renal
   failure concerning for rejection.
   Plan:
   ## Suspected recurrent thrombotic thrombocytopenic pupura with
   microangiopathic hemolytic anemia
   - blood bank to discuss with hematology and nephrology about the role
   of plasmapheresis
   - cont methylprednisolone 500 mg IV daily, sirolimus 5 [**Hospital1 **] daily, MMF
   720 mg [**Hospital1 **]
   - trend CBC and LDH q8h
   - cont to hold valacyclovir
   - f/u blood cultures to r/o DIC/sepsis
   - direct Coomb's negative
   ## Acute on chronic renal insufficiency; concern that flare of
   thrombotic microangiopathy has caused a new, severe insult to her renal
   graft; unclear if abnormal diastolic blood flow to renal graft is
   consistent with thrombotic microangiopathy though it's certainly
   concerning for rejection; rising potassium and worsening metabolic
   acidosis are likely to prompt need for hemodialysis
   - renal input appreciated
   - IR to place left IJ pheresis line (with VIP port) following 2 units
   of FFP (goal INR 2.0) for likely hemodialysis +/- plasmapheresis
   - cont methylprednisolone 500 mg IV daily, sirolimus 5 mg daily, amd
   MMF 720 mg [**Hospital1 **] for presumed rejection
    ## Acute hemolytic anemia; as above; likely etiology of exertional
   dyspnea and tea-colored urine
   - Hct bumped appropriately to transfusion; symptoms improved
   - Guaiac stools
   - cont ferrous sulfate
   ## Anticardiolipin antibody syndrome
   - likely not safe to reverse INR below 2.0 for procedures
   - cont to hold warfarin
   - if plasmapheresis is initiated, will need IV heparin for therapeutic
   anticoagulation, though monitoring PTT while getting plasmapheresis has
   numerous logistical difficulties
   ## Depression/Anxiety: cont outpatient psych regimen
   ## HTN
   - cont amlodipine
   - convert metoprolol to short-acting in case of bleeding complication
   - hold lisinopril given renal failure
   ## Osteoporosis: cont calcium and vitamin D; hold bisphosphonate given
   renal failure
   ICU Care
   Nutrition: NPO pending line placement; low sodium/heart healthy diet
   Glycemic Control:  add insulin sliding scale while on high-dose
   steroids
   Lines:
   20 Gauge - [**2118-1-2**] 10:32 PM
   Prophylaxis:
   DVT: therapeutic anticoagulation as above
   Stress ulcer: home ppi
   Communication:  with patient
   Code status:  Full
   Disposition:  ICU

2118-01-04 07:40:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Hemoptysis I
   Intubated o/n
 refractory hypoxemia
   Abodminal U/S with Doppler,negative for portal clot
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2118-1-4**] 01:30 AM
   Other medications:
   Methyprednisone 500/day
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-4**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 74 (69 - 83) bpm
   BP: 171/93(108) {120/50(75) - 171/93(108)} mmHg
   RR: 32 (17 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,683 mL
                                                                    903 mL
   PO:
                                                                    710 mL
           TF:
   IVF:
                                                                     15 mL
                                                                     77 mL
   Blood products:
                                                                    958 mL
                                                                    826 mL
   Total out:
                                                                    200 mL
                                                                    505 mL
   Urine:
                                                                    200 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 18 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.32/42/183/20/-4
   Ve: 8.6 L/min
   PaO2 / FiO2: 229
   Physical Examination
   General Appearance: Intubated, Sedated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Distended, firm, non-tender.
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   42 K/uL
   183 mg/dL
   7.6 mg/dL
   20 mEq/L
   5.2 mEq/L
   133 mg/dL
   101 mEq/L
   139 mEq/L
   26.4 %
   11.2 K/uL
        [image002.jpg]
                            [**2118-1-2**]  11:07 PM
                             [**2118-1-3**]  01:05 AM
                             [**2118-1-3**]  05:23 AM
                             [**2118-1-3**]  04:25 PM
                             [**2118-1-3**]  07:33 PM
                             [**2118-1-3**]  09:57 PM
                             [**2118-1-4**]  02:40 AM
                             [**2118-1-4**]  03:46 AM
                             [**2118-1-4**]  06:24 AM
   WBC
   6.6
   5.4
   7.6
   11.2
   Hct
   22.7
   28.0
   20.7
   21.1
   26.4
   Plt
   40
   40
   44
   42
   Cr
   6.1
   6.6
   7.0
   7.6
   TCO2
   19
   20
   21
   23
   Glucose
   104
   200
   132
   183
   Other labs: PT / PTT / INR:22.5/111.0/2.2, ALT / AST:269/180, Alk Phos
   / T Bili:123/1.4, Lactic Acid:1.0 mmol/L, LDH:[**2070**] IU/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
    Plasmapheresis
currently on hold [**3-6**] to concern for lack of efficacy
   and her high bleeding risk per heme, blood bank.  Plan team meeting
   today.
   Transfuse for Hct < 25
   Currently off heparin, plan to hold anticoagulation for now.
   Methylprednisone 500/daily, ? increase dose
   FFP today in an attempt to normalize INR
   ##Respiratory Failure
 c/b refractory hypoxemia, likely secondary DAH.
   Continues on steroids. Currently on PC with PEEP of 18,   but abdominal
   distension. Check bladder preasure, esophageal balloon today, ?
   increase vent. Aggressive reverse coagulopathy.
   ##Renal Failure -
   Antidonor antibodies negative, now doubting rejection. . Renal
   following for possible RRT. Catheter placed today. . Sirolimus off.
   Myfotic 720 Oral [**Hospital1 **] will change IV.
   Hemolytic anemia - bumped appropriately, plan as above.
   Abdominal Distension
 Ab CT to eval ? bleed if vent setting stabilize.
    Check bladder preasure, ?abdominal compartment syndrome.
   Neuro
 normal exam now, low threshold for head CT.
   ICU Care
   Nutrition:
   NPO for now.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   20 Gauge - [**2118-1-4**] 05:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2118-01-04 12:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea
   24 Hour Events:
 PHERESIS CATHETER - START [**2118-1-3**] 02:25 PM  no complications
 ULTRASOUND - At [**2118-1-3**] 08:14 PM  unremarkable abdominal doppler
 NON-INVASIVE VENTILATION - START [**2118-1-3**] 11:15 PM  see event note
   re BiPAP
 INVASIVE VENTILATION - START [**2118-1-4**] 05:13 AM  intubated secondary
   to pulmonary hemorrhage, increased respiratory distress
 NON-INVASIVE VENTILATION - STOP [**2118-1-4**] 05:15 AM
   See event note for more details on earlier phase. After BiPAP had
   successfully supported respiration for several hours, at 5:00 am,
   realized that we would have to intubate pt after what we originally
   thought was fluid overload declared itself as pulmonary hemorrhage, via
   hematemesis/hemoptysis.
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2118-1-4**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea, Tachypnea
   Genitourinary: Dysuria, Foley
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2118-1-4**] 12:34 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 81 (69 - 82) bpm
   BP: 153/91(104) {132/50(84) - 173/95(111)} mmHg
   RR: 29 (18 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  1,683 mL
                                                                  1,292 mL
   PO:
                                                                    710 mL
   TF:
   IVF:
                                                                     15 mL
                                                                    251 mL
   Blood products:
                                                                    958 mL
                                                                    981 mL
   Total out:
                                                                    200 mL
                                                                    940 mL
   Urine:
                                                                    200 mL
                                                                    640 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,483 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 400) mL
   PS : 8 cmH2O
   RR (Set): 30
   RR (Spontaneous): 3
   PEEP: 23 cmH2O
   FiO2: 70%
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: 7.32/42/183/20/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 261
   Physical Examination
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   still 2/3rds up bases)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   42 K/uL
   9.6 g/dL
   183 mg/dL
   7.6 mg/dL
   20 mEq/L
   5.2 mEq/L
   133 mg/dL
   101 mEq/L
   139 mEq/L
   26.4 %
   11.2 K/uL
        [image002.jpg]
                            [**2118-1-2**]  11:07 PM
                             [**2118-1-3**]  01:05 AM
                             [**2118-1-3**]  05:23 AM
                             [**2118-1-3**]  04:25 PM
                             [**2118-1-3**]  07:33 PM
                             [**2118-1-3**]  09:57 PM
                             [**2118-1-4**]  02:40 AM
                             [**2118-1-4**]  03:46 AM
                             [**2118-1-4**]  06:24 AM
   WBC
   6.6
   5.4
   7.6
   11.2
   Hct
   22.7
   28.0
   20.7
   21.1
   26.4
   Plt
   40
   40
   44
   42
   Cr
   6.1
   6.6
   7.0
   7.6
   TCO2
   19
   20
   21
   23
   Glucose
   104
   200
   132
   183
   Other labs: PT / PTT / INR:22.5/111.0/2.2, ALT / AST:269/180, Alk Phos
   / T Bili:123/1.4, Lactic Acid:1.0 mmol/L, LDH:[**2070**] IU/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   RESPIRATORY DISTRESS
   See event notes from resident and attending for more detail. In brief
   as events unfolded our original assessment that pulmonary edema was the
   culprit was not correct and that in fact her increasing O2 requirement
   and eventual need for intubation was the product of pulmonary
   hemorrhage. Protamine, DDAVP, and FFP were given. Likely will benefit
   from additional FFP.
   --FFP this AM
   --follow coags
   --discuss with heme and blood bank and renal; current thinking is that
   plasma exchange may not be beneficial in this setting
   --dialysis later today--removal of some volume may help respiratory
   distress even if the ultimate cause is hemorrhage
   --low compliance likely secondary to blood in chest cavity and lung
   parenchyma.
   AUTOREACTIVE ANTIBODIES CAUSING HEMATOLOGIC PROBLEMS
   TTP-like syndrome but with normal ADAMTS-13 levels in a previous
   manifestation of this; she has both clotting and bleeding challenges.
   Pulmonary distress is the most important problem and the one we are
   taking pains to address immediately. In the meantime discussion of
   possible benefits of plasma exchange with heme, blood bank and renal,
   as above.
   --team meeting today
   --
   RENAL FAILURE
   F/U renal recs. Cause of renal failure not immediately clear; but by
   verbal report, donor antibodies were negative, lessening the chance
   that rejection is the cause.
   - dialysis today
   - consider repeating renal U/S with doppler to eval interval
   progression at some point later this week
   ABDOMINAL DISTENSION
   Increased abdominal distension today. ?abdominal bleed vs possible
   effects of an abdominal clot; however the latter is made less likely by
   yesterday
s U/S
   -          f/u imaging
CT scan if stable enough, abd U/S if must stay
   in unit
   -          f/u exam to assess interval changes
   ELEVATED LFTs
   Appear stable currently. ?Effect of hemolysis and immune activation.
   Follow closely; no intervention today.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   20 Gauge - [**2118-1-4**] 05:01 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2118-01-05 07:47:00 Physician Resident Progress Note
Chief Complaint: Pulmonary Hemorrhage
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2118-1-4**] 10:15 AM
 ARTERIAL LINE - START [**2118-1-4**] 12:06 PM
 ULTRASOUND - At [**2118-1-4**] 05:30 PM
   Abd
 PAN CULTURE - At [**2118-1-5**] 01:40 AM due to Fever
   Got A-line
   Initiated hemodialysis
   Got 6 units FFP, 4units pRBCs
   Too unstable for transport for CT, got abdominal U/S PRELIM read showed
   no ascites or pelvic free fluid.
   Got IVIG
   Patient noted to have right foot twitching felt to be tremor
   Failed to tolerate PO with very high residuals-- converted key
   medications to IV
   Patient difficult to ventilate
   -- in am Esophageal balloon revealed that with PEEP of 18, actual PEEP
   zero due to abdominal pressure
   -- Bladder pressures 20 in am, 15 after HD, remained high at 20 s/p
   IVIG, changed vent as below and bladder pressure decreased to 11
   -- ABG 7.29/55/98 -- indicated falling O2, increasing CO2 creating
   respiratory acidosis == decreased PEEP from 23--21, increased RR
   30--34, increased Tv 300--320 (increased minute ventilation by 1 liter)
   == repeat ABG 7.35/48/142
   -- PIPs remains high, esophageal pressure also high, suggesting lung
   compliance decreasing
   -- Did wean FiO2 to 50%
   -- Increased sedation to help with patient dysynchrony
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2118-1-5**] 01:44 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2118-1-5**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 69 (69 - 99) bpm
   BP: 161/88(117) {104/70(87) - 168/102(130)} mmHg
   RR: 34 (22 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 11 (11 - 20) mmHg
   Total In:
                                                                  2,818 mL
                                                                  2,063 mL
   PO:
   TF:
   IVF:
                                                                    936 mL
                                                                    754 mL
   Blood products:
                                                                  1,782 mL
                                                                  1,309 mL
   Total out:
                                                                  3,380 mL
                                                                    275 mL
   Urine:
                                                                    800 mL
                                                                     25 mL
   NG:
                                                                    580 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                  1,788 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (300 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 38 cmH2O
   Compliance: 18.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/48/142/25/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 284
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: pinpoint, conjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Diminished: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   both legs stiff
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   31 K/uL
   7.9 g/dL
   154 mg/dL
   6.0 mg/dL
   25 mEq/L
   5.7 mEq/L
   86 mg/dL
   103 mEq/L
   141 mEq/L
   21.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2118-1-4**]  06:24 AM
                             [**2118-1-4**]  12:45 PM
                             [**2118-1-4**]  01:06 PM
                             [**2118-1-4**]  04:48 PM
                             [**2118-1-4**]  05:45 PM
                             [**2118-1-4**]  06:22 PM
                             [**2118-1-4**]  10:59 PM
                             [**2118-1-5**]  01:17 AM
                             [**2118-1-5**]  03:08 AM
                             [**2118-1-5**]  03:20 AM
   WBC
   10.8
   10.9
   7.7
   6.5
   Hct
   24.0
   24.1
   20.6
   21.2
   Plt
   30
   32
   30
   31
   Cr
   7.1
   5.5
   5.8
   6.0
   TCO2
   23
   25
   26
   28
   28
   28
   Glucose
   [**Telephone/Fax (3) 6831**]54
   Other labs: PT / PTT / INR:15.0/38.1/1.3, ALT / AST:259/199, Alk Phos /
   T Bili:87/2.3, Lactic Acid:0.7 mmol/L, LDH:1777 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:7.3 mg/dL
   ABD U/S no fluid in free fluid in pelvis
   CXR: bilateral patchy opacities consistent with interstitial fluid
   improved compared to yesterday.
   Assessment and Plan
   54 year old woman with anticardiolipin antibody syndrome and prior
   thrombotic microangiopathic hemolytic anemia (TMA) with resultant ESRD
   s/p renal transplant presenting with acute renal failure, and on
   heparin w/ acute pulmonary hemorrhage.
   Fever: in setting of intubation and respiratory failure
   -send sputum, blood, urine
   -empiric coverage with vanc/levo
   Pulmonary Hemorrhage: patient is off all anticoagulation. Patient is
   receiving FFP. Patient
s CXR improved today.
   -FFP if active bleeding
   -precipitant likely heparin
   - appreciate renal, blood bank, heme/onc recs
   Respiratory Failure: patient ventilated for airway protection, now with
   increasing PIPs suggestive of poor airway compliance perhaps due to
   overdistention. Patient pulmonary hemorrhage appears stable. A
   component of interstitial fluid on CXR may have been due to CHF in the
   setting of renal failure with volume overload.
   - follow bladder pressures
   - decrease PEEP
   - recheck esophageal balloon
   Abdominal Distention: appears to be related to volume in setting of
   renal failure
   - appreciate renal efforts and plans for daily dialysis
   -CT abd/pelvis if patient stable
   Anemia: Patient  with known acute hemolytic anemia with stable LDH over
   past 2 days, also with anemia d/t blood loss from pulmonary hemorrhage
   - Guaiac stools
   - cont ferrous sulfate
   - transfuse to keep HCT >25
   - if evidence of ongoing bleeding give FFP
   Acute on chronic renal insufficiency: graft damage due to thrombotic
   microangiopathy vs graft rejection. No donor antibodies, decreasing
   likelihood of rejection. Gave IVIG [**1-4**]. Minimal urine output O/N
   concerning for loss of graft.
   - appreciate renal and transplant surgery input
   - cont methylprednisolone 500 mg IV daily
   - holding sirolimus per renal
   - cont mycophenolate mofetil per home regimen
   - continue with HD
   - will need to consider if anticoagulation may be needed to rescue
   renal function !
   Thrombotic thrombocytopenic pupura with microangiopathic hemolytic
   anemia. No plasmapheresis at this time
LDH falling. Did have fever, so
   could have component of sepsis, but not with septic physiology.
   - hematology input appreciated
   - cont methylprednisolone 500 mg IV daily
   - trend CBC and LDH q8h
   - hold valacyclovir
   Anticardiolipin antibody syndrome: given pulmonary hemorrhage,
   reversing INR. Will be at risk to clot.
   - apprec heme/onc opinion re: when patient anticoagulation benefit
   outweighs bleeding risk
   Tremors/ Lower Ext Rigidity: maybe in the setting of infection or
   sedation, but concern given hx clotting/bleeding for central process.
   There are not focal findings
   - CT head
   Depression/Anxiety: cont outpatient psych regimen
   HTN
   - cont amlodipine
   - convert metoprolol back to PO and attempt to use gut
   - hold lisinopril given renal failure
   Osteoporosis: cont calcium and vitamin D; hold bisphosphonate given
   renal failure
   ICU Care
   Nutrition: high residuals yesterday in setting increased bladder
   pressure, pressure improved today restart PO meds and attempt to start
   tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   20 Gauge - [**2118-1-4**] 05:01 AM
   Arterial Line - [**2118-1-4**] 12:06 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: ppi
   VAP:  precautions
   Comments:
   Communication: sister, updated [**1-4**] pm, Patient discussed on
   interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2118-01-05 09:07:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2118-1-4**] 10:15 AM
 ARTERIAL LINE - START [**2118-1-4**] 12:06 PM
   ### Continued transfusion yesterday - 6 Units PRBC, 4 Units FFP.
   ##Increasing sedation to keep in synch with vent.
   ###Fever to 101 - pan-cultured
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2118-1-5**] 01:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-5**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.4
   HR: 71 (69 - 99) bpm
   BP: 165/92(122) {104/70(87) - 168/102(130)} mmHg
   RR: 29 (22 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 50 kg
   Bladder pressure: 11 (11 - 20) mmHg
   Total In:
                                                                  2,818 mL
                                                                  2,093 mL
   PO:
   TF:
   IVF:
                                                                    936 mL
                                                                    784 mL
   Blood products:
                                                                  1,782 mL
                                                                  1,309 mL
   Total out:
                                                                  3,380 mL
                                                                    280 mL
   Urine:
                                                                    800 mL
                                                                     30 mL
   NG:
                                                                    580 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                  1,813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (300 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 50%
   PIP: 39 cmH2O
   Plateau: 35 cmH2O
   Compliance: 22.9 cmH2O/mL
   SpO2: 98%
   ABG: 7.35/48/142/25/0
   Ve: 7.5 L/min
   PaO2 / FiO2: 284
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   31 K/uL
   154 mg/dL
   6.0 mg/dL
   25 mEq/L
   5.7 mEq/L
   86 mg/dL
   103 mEq/L
   141 mEq/L
   21.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2118-1-4**]  06:24 AM
                             [**2118-1-4**]  12:45 PM
                             [**2118-1-4**]  01:06 PM
                             [**2118-1-4**]  04:48 PM
                             [**2118-1-4**]  05:45 PM
                             [**2118-1-4**]  06:22 PM
                             [**2118-1-4**]  10:59 PM
                             [**2118-1-5**]  01:17 AM
                             [**2118-1-5**]  03:08 AM
                             [**2118-1-5**]  03:20 AM
   WBC
   10.8
   10.9
   7.7
   6.5
   Hct
   24.0
   24.1
   20.6
   21.2
   Plt
   30
   32
   30
   31
   Cr
   7.1
   5.5
   5.8
   6.0
   TCO2
   23
   25
   26
   28
   28
   28
   Glucose
   [**Telephone/Fax (3) 6831**]54
   Other labs: PT / PTT / INR:15.0/38.1/1.3, ALT / AST:259/199, Alk Phos /
   T Bili:87/2.3, Lactic Acid:0.7 mmol/L, LDH:1777 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   500mg/day methypred + cellcept. Etiology rejection vs. TMA
 RESPIRATORY FAILURE, ACUTE
   Acute lung injury [**3-6**] aspirated blood. Aim Vt 66cc/kg. Decrease PEEP
   today - likely overdistended. Once PEEP 12 or less, can resume wean O2.
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   Continued anemia - likely blood loss + TMA. Transfuse for Hct > 25.
   Holding anticoagulation for now.
   Other blood products as needed to normalize coags.
   ##Neuro - heavily sedated so difficult neuro exam. Check head CT today.
   ##Anti-phospholipid Ab - risk of bleeding likely continues to outweigh
   risk of clot so will hold anticoagulation for now. No plasma excahnage
   per renal, blood bank.
   ICU Care
   Nutrition:
   Comments: Holding [**3-6**] high residulas.
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   20 Gauge - [**2118-1-4**] 05:01 AM
   Arterial Line - [**2118-1-4**] 12:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan, written by Dr. [**Last Name (STitle) **].
   [**Location (un) 5651**]. I would emphasize and add the following points: 54F ESRD s/p
   transplant, APLAS, MHA/TTP c/b respiratory failure and pulmonary
   hemorrhage as well as ARF. Anuric, HD yesterday.
   Exam notable for Tm 101 BP 160/80 HR 80 RR 34 with sat 99 on VAC 320x
   24 PEEP 21, FiO2 0.5 7.35/48/142. Lower extremities rigid with clonus.
   Coarse BS B. RRR s1s2 hyperdynamic. Abd is protruberant but less tense
   today. Labs notable for WBC 6.5K, HCT 21, K+ 5.7, Cr 6.5, PLTS 31, LDH
   1700. CXR with resolving infiltrates.
   Agree with plan to continue ARDS vent with slow PEEP wean for alveolar
   hemorrhage / ARDS and start antibiotics given possibility of
   superimposed pneumonia. We will treat volume overload and hypertension
   in the setting of ARF with continued HD with UF today. For her
   APLA/MHA/TTP, will continue pulse dose MP and again discuss the risks /
   benefits of plasma exchange with heme, renal and transfusion medicine.
   Renal failure may be related to thrombotic diathesis but no evidence of
   active GN on sediment. Will hold PO psych meds given clonus (as well as
   likely drug-induced ileus) and check head CT as able. Will also discuss
   with family, renal transplant and heme re plan for possible
   anticoagulation going forward given APLAS, but the combination of
   active bleeding and ongoing pulmonary hemorrhage due to coagulopathy
   and uremic platelet dysfunction make heparin too risky to resume now.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min

2118-01-06 07:46:00 Physician Resident Progress Note
Chief Complaint: Originally: dyspnea
   Currently: pulmonary hemorrhage, coagulopathy
   24 Hour Events:
   - Decreased PEEP from 21 to 16, back up to 18
   - Episode of desaturation overnight thought due to agitation ->
   responded to increased sedation
   - Agitation and hypertension overnight; recognized needed to advance
   ETT 2 cm, agitation and hypertension continued after this-> added back
   propofol gtt, increased PEEP/FiO2
   - CT head with question of early cerebral edema per radiology resident
   -> seen by neurology without any acute concerns for edema, however,
   recommendation of MRI head, C-, T-, and L-spine to evaluate spasticity
   - Given additional IVIG 50 gm (1 gm/kg)
   - Given additional 1U PRBC
   - Titrated anti-hypertensives; one dose of hydralazine
   - Holding psychiatric medications
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 12:27 PM
   Levofloxacin - [**2118-1-5**] 12:27 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-6**] 12:05 AM
   Metoprolol - [**2118-1-6**] 05:45 AM
   Hydralazine - [**2118-1-6**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2118-1-6**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 82 (61 - 82) bpm
   BP: 122/70(90) {108/40(62) - 195/106(140)} mmHg
   RR: 34 (29 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 50 kg
    Bladder pressure: 11 (11 - 12) mmHg
   Total In:
                                                                  3,204 mL
                                                                    533 mL
   PO:
   TF:
   IVF:
                                                                  1,805 mL
                                                                    533 mL
   Blood products:
                                                                  1,309 mL
   Total out:
                                                                  2,903 mL
                                                                      5 mL
   Urine:
                                                                     48 mL
                                                                      5 mL
   NG:
                                                                    355 mL
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                    528 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 31 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/43/77/23/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Eyes / Conjunctiva: PERRL, pupils constricted but reactive and equal
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   limited anterior exam on vent)
   Abdominal: Bowel sounds present, Distended, bowel sounds faint but
   present; slight increase in distension from yesterday by my exam
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   39 K/uL
   9.2 g/dL
   156 mg/dL
   4.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   60 mg/dL
   98 mEq/L
   133 mEq/L
   25.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2118-1-5**]  03:08 AM
                             [**2118-1-5**]  03:20 AM
                             [**2118-1-5**]  08:25 AM
                             [**2118-1-5**]  09:18 AM
                             [**2118-1-5**]  11:38 AM
                             [**2118-1-5**]  02:46 PM
                             [**2118-1-5**]  06:26 PM
                             [**2118-1-5**]  09:18 PM
                             [**2118-1-6**]  02:39 AM
                             [**2118-1-6**]  04:50 AM
   WBC
   6.5
   7.3
   Hct
   21.2
   25.1
   24.8
   24.7
   23.2
   25.6
   Plt
   31
   43
   34
   40
   39
   Cr
   6.0
   4.8
   TCO2
   28
   28
   28
   26
   Glucose
   154
   156
   Other labs: PT / PTT / INR:15.5/35.0/1.4, ALT / AST:234/117, Alk Phos /
   T Bili:87/2.5, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:1393 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   DRAFT IN PROGRESS NOTE
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) with resultant ESRD s/p renal
   transplant presenting with new acute renal failure; w/ acute pulmonary
   hemorrhage in the setting of starting heparin after d/c
ing warfarin.
   FEVER
   Afebrile more recently. We are following up cultures. Fever emerged in
   the setting of acute pulmonary hemorrhage and may be the result of the
   acute inflammatory events that followed; however, underlying infection
   remains a possibility and we are covering with vancomycin and
   Levofloxacin.
   - f/u cultures
   - define vanco/levo course as 10 days until further evidence of source
   emerges; could consider peeling off vanco in advance of this if no
   positive evidence of infection
   PULMONARY HEMORRHAGE / BLEEDING DISORDER
   Patient is off all anticoagulation. Initial precipitant was likely
   starting heparin in the setting of baseline bleeding risk because of
   hematologic disorders; no evidence of further bleeding; x-ray is
   improving
   -Heme/onc recommends total of 100 g IVIG, feels plasmapheresis
   risk/benefit has too great a risk b/c of necessary anticoagulation
   -We are completing IVIG today with final dose of 30 g
   -Appreciate the involvement and recommendations of renal, hematology
   and blood bank services
   RESPIRATORY FAILURE
   Pulmonary hemorrhage and inflammation likely to be major source of her
   respiratory compromise. Resorption of blood and resolution of
   inflammation will hopefully lead to being able to wean; appears to be
   too early to expect this yet. No evidence of further major bleeding per
   RTs and RNs.
   - Poor compliance and high PEEP requirement;
   - will try to dial down FiO2 as a starting point,
   - esophageal balloon assessment earlier suggested need for elevated
   PEEP, likely will need reassessment later today or tomorrow if pt is
   tolerating decreases in FiO2
   ABDOMINAL DISTENSION
   CT scan shows no clear intraabdominal pathology, formal read is
   pending, will f/u; for now no intervention, follow exam; other members
   of MICU team felt distension had actually improved so if there is
   worsening it is not dramatic.
   - f/u CT
   ANEMIA
   Patient with known acute hemolytic anemia. LDH declining, reassuring.
   Some blood loss from hemorrhage.
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy vs graft rejection; per
   renal, rejection is less likely given no donor antibodies. Minimal
   urine output continuing.
   - appreciate renal and transplant surgery input
   - changed to 50 mg prednisone daily
   - holding sirolimus per renal
   - cont mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA. No plasmapheresis at this
   time
LDH falling, bleeding risk creates more risk than benefit for TPE.
   - hematology input appreciated
   - cont methylprednisolone 500 mg IV daily
   - trend CBC and LDH q8h
   - apprec heme/onc opinion re: when patient anticoagulation benefit
   outweighs bleeding risk
   TREMORS/LOWER EXTREMITY RIGIDITY. Appreciate neurology consult and
   recs. CT shows edema, no clear focal lesion. MRI of head and spine
   would be ideal; pt not stable enough at this point to transport to MRI.
   Depression/Anxiety: hold psych meds for now to simplify regimen
   HYPERTENSION. Increasing hypertension; pt has baseline htn; important
   to control in setting of acute bleeding, ?neuro pathology.
   - cont amlodipine
   - adding on hydralazine
   - went back to IV with metoprolol to ensure absorption; I am a bit
   concerned about too much rate blocking as if she opens up in terms of
   bleeding she may need this rate; I am inclined to use non-blocking
   agents for hypertension control if we need to increase dosing
   - hold lisinopril given renal failure
   - monitor correlation of HR and BP; discordant relationship would raise
   concern for cerebral process
   - goal BP <150
   ICU Care
   Nutrition:
   Comments: NPO for now; had some blood back from NG yesterday; re-eval
   today for ?starting tube feeds
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   20 Gauge - [**2118-1-5**] 09:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments: PEEP >10
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2118-01-06 09:57:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Decrease PEEP yesterday
   desaturation o/n
   CT yesterday c/w ARDS; head CT concerning for early cerebral edema
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 12:27 PM
   Levofloxacin - [**2118-1-5**] 12:27 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-6**] 12:05 AM
   Metoprolol - [**2118-1-6**] 05:45 AM
   Hydralazine - [**2118-1-6**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-6**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 71 (61 - 82) bpm
   BP: 133/77(98) {108/40(62) - 195/106(140)} mmHg
   RR: 33 (29 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 50 kg
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  3,204 mL
                                                                    619 mL
   PO:
   TF:
   IVF:
                                                                  1,805 mL
                                                                    619 mL
   Blood products:
                                                                  1,309 mL
   Total out:
                                                                  2,903 mL
                                                                      5 mL
   Urine:
                                                                     48 mL
                                                                      5 mL
   NG:
                                                                    355 mL
   Stool:
   Drains:
   Balance:
                                                                    301 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 60%
   PIP: 36 cmH2O
   Plateau: 34 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/43/77/23/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   39 K/uL
   156 mg/dL
   4.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   60 mg/dL
   98 mEq/L
   133 mEq/L
   25.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2118-1-5**]  03:08 AM
                             [**2118-1-5**]  03:20 AM
                             [**2118-1-5**]  08:25 AM
                             [**2118-1-5**]  09:18 AM
                             [**2118-1-5**]  11:38 AM
                             [**2118-1-5**]  02:46 PM
                             [**2118-1-5**]  06:26 PM
                             [**2118-1-5**]  09:18 PM
                             [**2118-1-6**]  02:39 AM
                             [**2118-1-6**]  04:50 AM
   WBC
   6.5
   7.3
   Hct
   21.2
   25.1
   24.8
   24.7
   23.2
   25.6
   Plt
   31
   43
   34
   40
   39
   Cr
   6.0
   4.8
   TCO2
   28
   28
   28
   26
   Glucose
   154
   156
   Other labs: PT / PTT / INR:15.5/35.0/1.4, ALT / AST:234/117, Alk Phos /
   T Bili:87/2.5, Lactic Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:1393 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
   Hypoxemic Respiratory Failure
   ARDS in the setting of presumed DAH/aspiration. Likely going need
   ventilatory support for some day. Cont. Vt 6cc/Kg , PEEP 16-18. Wean
   fi02 for paO2 > 60. Once fi02 > 0.4
   can attemot to wean PEEP. Will likely need sig. sedation
   Renal Failure -
   HD as per renal. Now thought secondary to TMA. Will need to
   re-institute anticoagulation when confidant that lung injury has
   somewhat resolved.
   Cont. metheypred, cyclosporine
   Anemia -
   Transfuse for Hct < 25 - anemia likely also secondary to TMA.
   Additional IvIg today.
   ICU Care
   Nutrition:
   Comments: Start tube feeds today.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   20 Gauge - [**2118-1-5**] 09:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2118-01-07 09:46:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2118-1-7**] 02:52 AM - prelim negative
   ? Seizure o/n.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 12:27 PM
   Levofloxacin - [**2118-1-6**] 12:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Nitroglycerin - 0.8 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2118-1-6**] 10:00 AM
   Lorazepam (Ativan) - [**2118-1-7**] 02:25 AM
   Hydralazine - [**2118-1-7**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube, bilious return
   Nutritional Support: Tube feeds
   Genitourinary: Dialysis
   Heme / Lymph: Coagulopathy
   Flowsheet Data as of  [**2118-1-7**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.1
   HR: 75 (59 - 86) bpm
   BP: 143/77(102) {115/66(83) - 191/92(127)} mmHg
   RR: 31 (26 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 50 kg
             Total In:
                                                                  1,809 mL
                                                                    583 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                    583 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,105 mL
                                                                    210 mL
   Urine:
                                                                      5 mL
                                                                     10 mL
   NG:
                                                                    100 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,296 mL
                                                                    373 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/38/203/24/1
   Ve: 11.4 L/min
   PaO2 / FiO2: 406
   Physical Examination
   RRR no m/r/g
   Lungs largely clear, some rhonchi
   Extrem warm
   Labs / Radiology
   9.3 g/dL
   54 K/uL
   126 mg/dL
   4.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   52 mg/dL
   96 mEq/L
   132 mEq/L
   25.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2118-1-5**]  09:18 AM
                             [**2118-1-5**]  11:38 AM
                             [**2118-1-5**]  02:46 PM
                             [**2118-1-5**]  06:26 PM
                             [**2118-1-5**]  09:18 PM
                             [**2118-1-6**]  02:39 AM
                             [**2118-1-6**]  04:50 AM
                             [**2118-1-6**]  10:24 PM
                             [**2118-1-7**]  04:21 AM
                             [**2118-1-7**]  04:54 AM
   WBC
   7.3
   6.8
   5.5
   Hct
   24.8
   24.7
   23.2
   25.6
   24.9
   25.1
   Plt
   43
   34
   40
   39
   51
   54
   Cr
   4.8
   3.7
   4.0
   TCO2
   28
   28
   26
   26
   Glucose
   156
   127
   126
   Other labs: PT / PTT / INR:15.1/34.6/1.3, ALT / AST:144/41, Alk Phos /
   T Bili:78/1.0, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:1393 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
   Still poor intestinal mobility. Will check KUB and then start reglan
   and po narcan if no sign of obstruction.
 HYPERTENSION, BENIGN
   Related to renal failure, currently well controlled on IV TNG. Stable
   now, will want to transition to intermittent agents. ?Captopril.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Transfuse for Hct < 25
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Likely [**3-6**] TMA, holding anticoagulation pending improvement in lung
   injury.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Lung injury likely secondary to aspirated blood. Oxygenation seems much
   improved today. Wean fi02 to 0.40, then start weaning PEEP.
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   No pheresis [**3-6**] concern for bleeding risk.
   ICU Care
   Nutrition:
   Comments: narcan and reglan today
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   20 Gauge - [**2118-1-5**] 09:49 AM
   Comments: Will place CVC today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2118-01-07 09:53:00 Physician Resident Progress Note
Chief Complaint: pulm hemorrhage
   24 Hour Events:
   MAGNETIC RESONANCE IMAGING - At [**2118-1-7**] 02:52 AM
   Went for MRI
   Had apparent seizure event after coming back from MRI, being moved etc.
   No clear precipitant other than being moved. Lasted 5-7 minutes. 6 mg
   Ativan given in response.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 12:27 PM
   Levofloxacin - [**2118-1-6**] 12:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Nitroglycerin - 0.8 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2118-1-6**] 10:00 AM
   Lorazepam (Ativan) - [**2118-1-7**] 02:25 AM
   Hydralazine - [**2118-1-7**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO
   Flowsheet Data as of  [**2118-1-7**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.1
   HR: 75 (59 - 86) bpm
   BP: 143/77(102) {115/66(83) - 191/92(127)} mmHg
   RR: 31 (26 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 50 kg
             Total In:
                                                                  1,809 mL
                                                                    581 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                    581 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,105 mL
                                                                    210 mL
   Urine:
                                                                      5 mL
                                                                     10 mL
   NG:
                                                                    100 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,296 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/38/203/24/1
   Ve: 11.4 L/min
   PaO2 / FiO2: 406
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   on limited anterior exam
   Abdominal: No(t) Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Increased
   Labs / Radiology
   54 K/uL
   9.3 g/dL
   126 mg/dL
   4.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   52 mg/dL
   96 mEq/L
   132 mEq/L
   25.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2118-1-5**]  09:18 AM
                             [**2118-1-5**]  11:38 AM
                             [**2118-1-5**]  02:46 PM
                             [**2118-1-5**]  06:26 PM
                             [**2118-1-5**]  09:18 PM
                             [**2118-1-6**]  02:39 AM
                             [**2118-1-6**]  04:50 AM
                             [**2118-1-6**]  10:24 PM
                             [**2118-1-7**]  04:21 AM
                             [**2118-1-7**]  04:54 AM
   WBC
   7.3
   6.8
   5.5
   Hct
   24.8
   24.7
   23.2
   25.6
   24.9
   25.1
   Plt
   43
   34
   40
   39
   51
   54
   Cr
   4.8
   3.7
   4.0
   TCO2
   28
   28
   26
   26
   Glucose
   156
   127
   126
   Other labs: PT / PTT / INR:15.1/34.6/1.3, ALT / AST:144/41, Alk Phos /
   T Bili:78/1.0, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:1393 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Assessment and Plan
 HYPERTENSION, BENIGN
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   DRAFT IN PROGRESS NOTE
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) with resultant ESRD s/p renal
   transplant presenting with new acute renal failure; w/ acute pulmonary
   hemorrhage in the setting of starting heparin after d/c
ing warfarin.
   PULMONARY HEMORRHAGE / BLEEDING DISORDER
   Patient is off all anticoagulation. Initial precipitant was likely
   starting heparin in the setting of baseline bleeding risk because of
   hematologic disorders; no evidence of further bleeding; x-ray is
   improving
   -Heme/onc recommends total of 100 g IVIG, feels plasmapheresis
   risk/benefit has too great a risk b/c of necessary anticoagulation
   -We are completing IVIG today with final dose of 30 g
   -Appreciate the involvement and recommendations of renal, hematology
   and blood bank services
   RESPIRATORY FAILURE
   Pulmonary hemorrhage and inflammation likely to be major source of her
   respiratory compromise. Resorption of blood and resolution of
   inflammation will hopefully lead to being able to wean; appears to be
   too early to expect this yet. No evidence of further major bleeding.
   - Currently successfully weaning down FiO2
   - Goal is to reduce PEEP after FiO2 down to 0.4
   ?SEIZURE
   Too early to tell whether this was truly a seizure. Bilateral
   coordinated nature of movements; muscle spasm is an alternative
   explanation but hard to explain why this would cause the unremitting
   and unvarying tremor during this period, and why it would have a sudden
   resolution. EEG pending. If this repeated itself, it would be a
   justification for:
   - continuous EEG monitoring at the bedside
   - loading anti-epileptics
   For now observation only.
   FEVER
   Afebrile more recently. We are following up cultures. Fever emerged in
   the setting of acute pulmonary hemorrhage and may be the result of the
   acute inflammatory events that followed; however, underlying infection
   remains a possibility and we are covering with vancomycin and
   Levofloxacin.
   - f/u cultures
   - define vanco/levo course as 10 days until further evidence of source
   emerges; could consider peeling off vanco in advance of this if no
   positive evidence of infection
   ABDOMINAL DISTENSION
   CT scan shows no clear intraabdominal pathology; likely ileus from
   sedation; this is consistent with increasingly bilious (but not bloody)
   return on OG tube.
   - nalaxone 2 mg to increase biliary transit and reduce opiate-induced
   ileus
   - reglan not appropriate in this pt b/c apparently had dystonic
   reactions in the past
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline..
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy vs graft rejection; per
   renal, rejection is less likely given no donor antibodies. Minimal
   urine output continuing.
   - appreciate renal and transplant surgery input
   - because not tolerating PO meds, changed PO prednisone back to
   equivalent dose (60 pred -> to 50 methylpred) of overnight team
   - holding sirolimus per renal
   - cont mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA. No plasmapheresis at this
   time
LDH falling, bleeding risk creates more risk than benefit for TPE.
   - hematology input appreciated
   - cont methylprednisolone 50 mg IV daily
   - currently planning to restart anticoagulation when benefit outweighs
   risk, likely at low pressure support settings on vent
   TREMORS/LOWER EXTREMITY RIGIDITY. Appreciate neurology consult and
   recs. CT shows edema, no clear focal lesion. Formal MRI read pending.
   No immediate evidence of lesions.
   Depression/Anxiety: holding psych meds for now to simplify regimen
   HYPERTENSION. Increasing hypertension; pt has baseline htn;
   - cont amlodipine
   - adding on hydralazine
   - went back to IV with metoprolol to ensure absorption; I am a bit
   concerned about too much rate blocking as if she opens up in terms of
   bleeding she may need this rate; I am inclined to use non-blocking
   agents for hypertension control if we need to increase dosing
   - hold lisinopril given renal failure
   - monitor correlation of HR and BP; discordant relationship would raise
   concern for cerebral process
   - goal BP <150
   ICU Care
   Nutrition:
   Glycemic Control:  ISS
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   20 Gauge - [**2118-1-5**] 09:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2118-01-08 11:53:00 Physician Resident Progress Note
Chief Complaint: Encephalopathy, Pulmonary hemorrhage, Acute Renal
   Failure
   24 Hour Events:
 EEG - At [**2118-1-7**] 08:16 AM
   Started on Nitro ggt for SBP in 170s
   EEG w/ encephalopathy
   Vent weaned to FiO2 40% and PEEP of 10
   Given narcan for high residuals and no BM/ ? narcotic ileus
   MRI Brain - Sulcal pattern FLAIR hyperintensity. The differential
   diagnosis of this finding includes increased FIO2 on this vented
   patient, propofol administration, venous hyperemia,
   infiltrative/inflammatory process, and hemorrhage. No hemorrhage was
   noted on recent CT examination.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-5**] 12:27 PM
   Levofloxacin - [**2118-1-7**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   No new information
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Gastrointestinal: Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-8**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 102 (71 - 106) bpm
   BP: 96/67(76) {77/56(62) - 172/95(127)} mmHg
   RR: 34 (22 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 50.9 kg (admission): 50 kg
    Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                    895 mL
                                                                    421 mL
   PO:
   TF:
   IVF:
                                                                    895 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    356 mL
   Urine:
                                                                     20 mL
                                                                      6 mL
   NG:
                                                                    200 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    675 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 34
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/38/154/20/-2
   Ve: 12.2 L/min
   PaO2 / FiO2: 385
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated and
   sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, No(t) Distended, No(t) Tender: ,
   hypoactive bs
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   increased tone, Opens eyes to voice, does not move arms/legs on command
   Labs / Radiology
   70 K/uL
   9.7 g/dL
   148 mg/dL
   5.8 mg/dL
   20 mEq/L
   4.8 mEq/L
   87 mg/dL
   92 mEq/L
   129 mEq/L
   26.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2118-1-5**]  09:18 PM
                             [**2118-1-6**]  02:39 AM
                             [**2118-1-6**]  04:50 AM
                             [**2118-1-6**]  10:24 PM
                             [**2118-1-7**]  04:21 AM
                             [**2118-1-7**]  04:54 AM
                             [**2118-1-7**]  10:35 AM
                             [**2118-1-7**]  05:11 PM
                             [**2118-1-8**]  03:55 AM
                             [**2118-1-8**]  04:21 AM
   WBC
   7.3
   6.8
   5.5
   7.3
   Hct
   23.2
   25.6
   24.9
   25.1
   26.5
   Plt
   40
   39
   51
   54
   70
   Cr
   4.8
   3.7
   4.0
   5.8
   TCO2
   26
   26
   26
   25
   23
   Glucose
   156
   127
   126
   148
   Other labs: PT / PTT / INR:13.4/30.0/1.1, ALT / AST:98/26, Alk Phos / T
   Bili:96/1.4, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:1393 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) with resultant ESRD s/p renal
   transplant presenting with new acute renal failure; w/ acute pulmonary
   hemorrhage in the setting of starting heparin after d/c
ing warfarin.
   ALVEOLAR/Pulmonary HEMORRHAGE / BLEEDING DISORDER: resolving on CXR
   Patient is off all anticoagulation. Initial precipitant was likely
   starting heparin in the setting of baseline bleeding risk because of
   hematologic disorders; no evidence of further bleeding
   -Heme/onc feels plasmapheresis risk/benefit has too great a risk b/c of
   necessary anticoagulation
   -s/p  IVIG
   -Appreciate the involvement and recommendations of renal, hematology
   and blood bank services
   RESPIRATORY FAILURE: Now with improving oxygenation.  Apparently [**3-6**]
   pulmonary hemorrhage.  Continued altered mental status prevents further
   weaning at this point.  Sputum cx growing SERRATIA MARCESCENS.  CXR w/
   ? LLL consolidation.
   - continue to treat w/ Levofloxacin for ? PNA based on sensitivities
   - continue to wean PEEP to 5
   - will attempt RSBI when able
   ?SEIZURE: Bilateral coordinated nature of movements; muscle spasm is an
   alternative explanation but hard to explain why this would cause the
   unremitting and unvarying tremor during this period, and why it would
   have a sudden resolution. EEG w/ encephalopathy. If this repeated
   itself, it would be a justification for:
   - continuous EEG monitoring at the bedside
   - loading anti-epileptics
   For now observation only.
   FEVER: Tmax 99.8 overnight.  Sputum cx w/ SERRATIA MARCESCENS.  Blood
   cx pending w/o growth to date.
   Had been covered empirically w/ vancomycin and Levofloxacin but given
   sensitivities of SERRATIA MARCESCENS
   - will d/c vanco and continue Levofloxacin for a 7 day course (d1 =
   [**1-5**])
   ABDOMINAL DISTENSION
   CT scan shows no clear intraabdominal pathology; likely ileus from
   sedation; this is consistent with increasingly bilious (but not bloody)
   return on OG tube.
   - given nalaxone 2 mg to increase biliary transit and reduce
   opiate-induced ileus w/o apparent help
   - reglan not appropriate in this pt b/c apparently had dystonic
   reactions in the past
   - will attempt to clamp NGT and re-start tube feeds
   - Lactulose
   - wean fentanyl as able
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200)..
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy vs graft rejection; per
   renal, rejection is less likely given no donor antibodies. Minimal
   urine output continuing.
   - appreciate renal and transplant surgery input
   - because not tolerating PO meds, changed PO prednisone back to
   equivalent dose (60 pred -> to 50 methylpred)
   - holding sirolimus per renal
   - cont mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   - consider rituxan to treat Thrombotic microangiopathy that appears to
   have boxed her transplanted kidney
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA. No plasmapheresis at this
   time
LDH falling, bleeding risk creates more risk than benefit for TPE.
   - hematology input appreciated
   - cont methylprednisolone 50 mg IV daily
   - currently planning to restart anticoagulation when benefit outweighs
   risk, likely at low pressure support settings on vent
   TREMORS/LOWER EXTREMITY RIGIDITY. Appreciate neurology consult and
   recs. CT shows edema, no clear focal lesion. No immediate evidence of
   lesions on MRI brain.  Appears mildly improved.
   - appreciate neuro input, will continue to follow
   Depression/Anxiety: holding psych meds for now to simplify regimen
   HYPERTENSION. Increasing hypertension and has been intermittently on
   nitro ggt.  Per renal, will not start ACEI to prevent renal-toxic
   effects in case transplant kidney comes back.
   - cont amlodipine
   - continue hydral prn
   - went back to IV with metoprolol to ensure absorption; I am a bit
   concerned about too much rate blocking as if she opens up in terms of
   bleeding she may need this rate; I am inclined to use non-blocking
   agents for hypertension control if we need to increase dosing
   - goal BP <150
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   20 Gauge - [**2118-1-5**] 09:49 AM
   18 Gauge - [**2118-1-7**] 02:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU

2118-01-09 07:51:00 Physician Resident Progress Note
Chief Complaint: Acute renal failure, Respiratory Failure,
   encephalopathy
   24 Hour Events:
   Fentanyl weaned
   Amlodipine starteed
   Decreased RR 2/2 resp alkalosis
   LDH trending down
   Vancomycin discontinued
   Given extra hydralizine for SBP <160
   Amlodipine increased from 5 to 10
   Small bowel movement
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-8**] 11:58 AM
   Infusions:
   Fentanyl - 20 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-1-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-9**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 79 (79 - 106) bpm
   BP: 177/99(132) {77/56(62) - 179/100(134)} mmHg
   RR: 24 (23 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 50 kg
    Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                    983 mL
                                                                    185 mL
   PO:
   TF:
   IVF:
                                                                    673 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  3,656 mL
                                                                      0 mL
   Urine:
                                                                     11 mL
   NG:
                                                                    645 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,673 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/38/152/25/0
   Ve: 7.8 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: no spontaneous movements of arms or legs
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed,
   opens eyes to voice
   Labs / Radiology
   74 K/uL
   9.4 g/dL
   95 mg/dL
   3.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   50 mg/dL
   99 mEq/L
   135 mEq/L
   26.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2118-1-7**]  10:35 AM
                             [**2118-1-7**]  05:11 PM
                             [**2118-1-8**]  03:55 AM
                             [**2118-1-8**]  04:21 AM
                             [**2118-1-8**]  01:23 PM
                             [**2118-1-8**]  03:03 PM
                             [**2118-1-8**]  04:19 PM
                             [**2118-1-8**]  05:40 PM
                             [**2118-1-9**]  04:08 AM
                             [**2118-1-9**]  05:53 AM
   WBC
   7.3
   6.5
   Hct
   26.5
   26.1
   Plt
   70
   74
   Cr
   5.8
   3.8
   TCO2
   26
   25
   23
   28
   30
   28
   25
   Glucose
   148
   95
   Other labs: PT / PTT / INR:14.0/28.8/1.2, ALT / AST:98/26, Alk Phos / T
   Bili:96/1.4, Differential-Neuts:94.5 %, Lymph:2.3 %, Mono:2.7 %,
   Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:976 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) with resultant ESRD s/p renal
   transplant presenting with new acute renal failure; w/ acute pulmonary
   hemorrhage in the setting of starting heparin after d/c
ing warfarin.
   ALVEOLAR/Pulmonary HEMORRHAGE / BLEEDING DISORDER: resolving on CXR
   Patient is off all anticoagulation. Initial precipitant was likely
   starting heparin in the setting of baseline bleeding risk because of
   hematologic disorders; no evidence of further bleeding
   -Heme/onc feels plasmapheresis risk/benefit has too great a risk b/c of
   necessary anticoagulation
   -s/p  IVIG
   -Appreciate the involvement and recommendations of renal, hematology
   and blood bank services
   RESPIRATORY FAILURE: Now with improving oxygenation.  Apparently [**3-6**]
   pulmonary hemorrhage.  Continued altered mental status prevents further
   weaning at this point.  Sputum cx growing SERRATIA MARCESCENS.  CXR w/
   ? LLL consolidation.
   - continue to treat w/ Levofloxacin for ? PNA based on sensitivities
   - continue to wean PEEP to 5
   - will attempt RSBI when able
   ?SEIZURE:No recurrent seizure activity in 24 hrs.  Bilateral
   coordinated nature of movements; muscle spasm is an alternative
   explanation but hard to explain why this would cause the unremitting
   and unvarying tremor during this period, and why it would have a sudden
   resolution. EEG w/ encephalopathy. If this repeated itself, it would be
   a justification for:
   - continuous EEG monitoring at the bedside
   - loading anti-epileptics
   For now observation only.
   FEVER: Tmax 99.5 overnight.  Sputum cx w/ SERRATIA MARCESCENS.  Blood
   cx pending w/o growth to date.
   Had been covered empirically w/ vancomycin and Levofloxacin but given
   sensitivities of SERRATIA MARCESCENS
   - vanco d/c'd on [**1-8**] will continue Levofloxacin for a 7 day course (d1
   = [**1-5**])
   ABDOMINAL Ileus: Had a small BM overnight
   CT scan shows no clear intraabdominal pathology; likely from sedation;
   this is consistent with increasingly bilious (but not bloody) return on
   OG tube.
   - given nalaxone 2 mg to increase biliary transit and reduce
   opiate-induced ileus w/o apparent help
   - reglan not appropriate in this pt b/c apparently had dystonic
   reactions in the past
   - will attempt to clamp NGT and re-start tube feeds this am
   - Lactulose prn
   - wean fentanyl as able
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200)..
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy vs graft rejection; per
   renal, rejection is less likely given no donor antibodies. Minimal
   urine output continuing.
   - appreciate renal and transplant surgery input
   - because not tolerating PO meds, changed PO prednisone back to
   equivalent dose (60 pred -> to 50 methylpred)
   - holding sirolimus per renal
   - cont mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   - consider rituxan to treat Thrombotic microangiopathy that appears to
   have boxed her transplanted kidney
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA. No plasmapheresis at this
   time
LDH falling, bleeding risk creates more risk than benefit for TPE.
   - hematology input appreciated
   - cont methylprednisolone 50 mg IV daily
   - currently planning to restart heparin ggt if factor Xa and Heparin
   levels are available today given excellent respiratory status w/ PEEP
   of 5/FiO2 of 40%.
   TREMORS/LOWER EXTREMITY RIGIDITY. Appreciate neurology consult and
   recs. CT shows edema, no clear focal lesion. No immediate evidence of
   lesions on MRI brain.  Appears mildly improved.
   - appreciate neuro input, will continue to follow
   Depression/Anxiety: holding psych meds for now to simplify regimen
   HYPERTENSION. Increasing hypertension in the setting of weaning
   Fentanyl.  Per renal, will not start ACEI to prevent renal-toxic
   effects in case transplant kidney comes back. Added amlodipine
   yesterday w/ prn hydralizine. Has a history of malignant HTN and
   worsening HTN is not suprising in the setting of high-dose steroids.
   - increase amlodipine from 5 mg to 10 mg daily
   - continue hydral 10 mg IV prn
   - metoprolol 5 mg IV Q 6hrs, will consider an esmolol ggt if needed
   - goal BP <150
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-8**] 12:35 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2118-01-10 08:01:00 Physician Resident Progress Note
Chief Complaint: pulmonary hemorrhage, renal failure
   24 Hour Events:
   restarted heparin; following PTT (goal 60) and heparin level
   discussed w renal who feel that kidney is not salvageable, our
   decisionmaking should not be based on attempting to preserve renal
   function
   some episodes of agitation, open eyes, moving legs, high BP and
   tachycardia when less sedated; ultimately led to having to restart
   fentanyl drip after 4-6 hrs on heparin as increasing BP became
   increasingly unacceptable
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-9**] 02:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 650 units/hour
   Fentanyl - 50 mcg/hour
   Nitroglycerin - 3 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2118-1-9**] 08:06 PM
   Fentanyl - [**2118-1-9**] 11:20 PM
   Metoprolol - [**2118-1-10**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-10**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 85 (75 - 123) bpm
   BP: 119/71(87) {105/65(76) - 209/91,100(161)} mmHg
   RR: 23 (19 - 42) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,351 mL
                                                                    714 mL
   PO:
             TF:
                                                                    249 mL
                                                                    198 mL
   IVF:
                                                                    821 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                     18 mL
                                                                      4 mL
   Urine:
                                                                     18 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,333 mL
                                                                    710 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Agitated
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/39/116/19/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Bronchial: with upper airway
   secretions)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, opens eys to voice, unable to follow any other
   commands
   Labs / Radiology
   82 K/uL
   9.1 g/dL
   161 mg/dL
   6.5 mg/dL
   19 mEq/L
   4.6 mEq/L
   112 mg/dL
   95 mEq/L
   131 mEq/L
   25.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2118-1-8**]  03:55 AM
                             [**2118-1-8**]  04:21 AM
                             [**2118-1-8**]  01:23 PM
                             [**2118-1-8**]  03:03 PM
                             [**2118-1-8**]  04:19 PM
                             [**2118-1-8**]  05:40 PM
                             [**2118-1-9**]  04:08 AM
                             [**2118-1-9**]  05:53 AM
                             [**2118-1-10**]  03:33 AM
                             [**2118-1-10**]  03:51 AM
   WBC
   7.3
   6.5
   10.3
   Hct
   26.5
   26.1
   25.5
   Plt
   70
   74
   82
   Cr
   5.8
   3.8
   5.1
   6.5
   TCO2
   23
   28
   30
   28
   25
   23
   Glucose
   148
   95
   117
   161
   Other labs: PT / PTT / INR:15.3/41.5/1.3, ALT / AST:56/27, Alk Phos / T
   Bili:100/0.7, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:898 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) with resultant ESRD s/p renal
   transplant presenting with new acute renal failure; w/ acute pulmonary
   hemorrhage in the setting of starting heparin after d/c
ing warfarin.
   ALVEOLAR/Pulmonary HEMORRHAGE / BLEEDING DISORDER: resolving on CXR --
   RESTARTED HEPARIN
   Patient is off all anticoagulation. Initial precipitant was likely
   starting heparin in the setting of baseline bleeding risk because of
   hematologic disorders; no evidence of further bleeding
   -Heme/onc feels plasmapheresis risk/benefit has too great a risk b/c of
   necessary anticoagulation
   -s/p  IVIG
   -Appreciate the involvement and recommendations of renal, hematology
   and blood bank services
   RESPIRATORY FAILURE: Now with improving oxygenation.  Apparently [**3-6**]
   pulmonary hemorrhage.  Continued altered mental status prevents further
   weaning at this point.  Sputum cx growing SERRATIA MARCESCENS.  CXR w/
   ? LLL consolidation
   - continue to treat w/ Levofloxacin for ? PNA based on sensitivities
   - continue to wean PEEP to 5
   - will attempt RSBI when able
   ?SEIZURE:No recurrent seizure activity in 24 hrs.  Bilateral
   coordinated nature of movements; muscle spasm is an alternative
   explanation but hard to explain why this would cause the unremitting
   and unvarying tremor during this period, and why it would have a sudden
   resolution. EEG w/ encephalopathy. If this repeated itself, it would be
   a justification for:
   - continuous EEG monitoring at the bedside
   - loading anti-epileptics
   For now observation only.
   FEVER: Tmax 99.5 overnight.  Sputum cx w/ SERRATIA MARCESCENS.  Blood
   cx pending w/o growth to date.
   Had been covered empirically w/ vancomycin and Levofloxacin but given
   sensitivities of SERRATIA MARCESCENS
   - vanco d/c'd on [**1-8**] will continue Levofloxacin for a 7 day course (d1
   = [**1-5**])
   ABDOMINAL Ileus: Had a small BM overnight
   CT scan shows no clear intraabdominal pathology; likely from sedation;
   this is consistent with increasingly bilious (but not bloody) return on
   OG tube.
   - given nalaxone 2 mg to increase biliary transit and reduce
   opiate-induced ileus w/o apparent help
   - reglan not appropriate in this pt b/c apparently had dystonic
   reactions in the past
   - will attempt to clamp NGT and re-start tube feeds this am
   - Lactulose prn
   - wean fentanyl as able
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200)..
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy vs graft rejection; per
   renal, rejection is less likely given no donor antibodies. Minimal
   urine output continuing.
   - appreciate renal and transplant surgery input
   - because not tolerating PO meds, changed PO prednisone back to
   equivalent dose (60 pred -> to 50 methylpred)
   - holding sirolimus per renal
   - cont mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   - consider rituxan to treat Thrombotic microangiopathy that appears to
   have boxed her transplanted kidney
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA. No plasmapheresis at this
   time
LDH falling, bleeding risk creates more risk than benefit for TPE.
   - hematology input appreciated
   - cont methylprednisolone 50 mg IV daily
   - currently planning to restart heparin ggt if factor Xa and Heparin
   levels are available today given excellent respiratory status w/ PEEP
   of 5/FiO2 of 40%.
   TREMORS/LOWER EXTREMITY RIGIDITY. Appreciate neurology consult and
   recs. CT shows edema, no clear focal lesion. No immediate evidence of
   lesions on MRI brain.  Appears mildly improved.
   - appreciate neuro input, will continue to follow
   Depression/Anxiety: holding psych meds for now to simplify regimen
   HYPERTENSION. Increasing hypertension in the setting of weaning
   Fentanyl.  Per renal, will not start ACEI to prevent renal-toxic
   effects in case transplant kidney comes back. Added amlodipine
   yesterday w/ prn hydralizine. Has a history of malignant HTN and
   worsening HTN is not suprising in the setting of high-dose steroids.
   - increase amlodipine from 5 mg to 10 mg daily
   - continue hydral 10 mg IV prn
   - metoprolol 5 mg IV Q 6hrs, will consider an esmolol ggt if needed
   - goal BP <150
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-9**] 11:34 PM 25 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-8**] 12:35 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin
   Stress ulcer:  ppi
   VAP:  precautions
   Comments:
   Communication:sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2118-01-10 09:49:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI: See previous notes for full details. Briefly remains intubated for
   acute lung injury in the setting of DAH, aspiratilon injury. Slowly
   tolerating decreasing vent settings and now back on heparin for history
   of antiphospholipid ab syndrome.
   24 Hour Events:
   Heparin restarted yesterday
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-9**] 02:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Heparin Sodium - 650 units/hour
   Fentanyl - 50 mcg/hour
   Nitroglycerin - 3 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2118-1-9**] 08:06 PM
   Fentanyl - [**2118-1-9**] 11:20 PM
   Metoprolol - [**2118-1-10**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: HTN
   Respiratory: intubated
   Genitourinary: Dialysis
   Heme / Lymph: Coagulopathy
   Flowsheet Data as of  [**2118-1-10**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.8
   HR: 87 (75 - 123) bpm
   BP: 144/79(100) {105/65(76) - 209/8,796(161)} mmHg
   RR: 28 (19 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,351 mL
                                                                    800 mL
   PO:
             TF:
                                                                    249 mL
                                                                    231 mL
   IVF:
                                                                    821 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                     18 mL
                                                                      4 mL
   Urine:
                                                                     18 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,333 mL
                                                                    796 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35, Agitated
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 24.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/39/116/19/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   ) diminished at bases.
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   82 K/uL
   161 mg/dL
   6.5 mg/dL
   19 mEq/L
   4.6 mEq/L
   112 mg/dL
   95 mEq/L
   131 mEq/L
   25.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2118-1-8**]  03:55 AM
                             [**2118-1-8**]  04:21 AM
                             [**2118-1-8**]  01:23 PM
                             [**2118-1-8**]  03:03 PM
                             [**2118-1-8**]  04:19 PM
                             [**2118-1-8**]  05:40 PM
                             [**2118-1-9**]  04:08 AM
                             [**2118-1-9**]  05:53 AM
                             [**2118-1-10**]  03:33 AM
                             [**2118-1-10**]  03:51 AM
   WBC
   7.3
   6.5
   10.3
   Hct
   26.5
   26.1
   25.5
   Plt
   70
   74
   82
   Cr
   5.8
   3.8
   5.1
   6.5
   TCO2
   23
   28
   30
   28
   25
   23
   Glucose
   148
   95
   117
   161
   Other labs: PT / PTT / INR:15.3/41.5/1.3, ALT / AST:56/27, Alk Phos / T
   Bili:100/0.7, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:898 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   ##Respiratory Failure
 ARDS/now [**Doctor Last Name **]:
          DAH
          aspiration
          pulmonary edema
          serratia in sputum
          atelectasis
   Now on decreasing vent settings. Continue low tidal volume ventilation.
   Can titrate up PEEP in light of increasing atelectasis.
   ##Renal Failure
 failed graft.
   Now HD dependent. Solumedrol 50  + cellcept. HD three times a week vs
   temp line.
   Restarting ACE, converting solumedrol to oral prednisone.
   ##Thrombotic Microangiopathy
   On steroid taper and s/p IVIg. Heparin restarted now out of concern for
   thrombosis risk. Cont. Solumedrol 50. Observing very closely for bleed,
   trending hct.
   ##HTN
   Trying to transition to po meds.
   ##Depressed Mental Status -
   Continue to wean sedation as tolerated. MRI negative. Will need spinal
   MRI if exam does not improve along with mental status.
   ##VAP
   Sputm culture with serratia. Levofloxacin Day [**6-9**].
   ## ileus. Improving.
   ICU Care
   Nutrition:
   Comments: Tube feeds at goal, po narcan to cont.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-8**] 12:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2118-01-11 07:47:00 Physician Resident Progress Note
Chief Complaint: pulmonary hemorrhage and renal failure in setting of
   complex hematologic disorder including anti-phospholipid antibodies and
   PAI deficiency
   24 Hour Events:
   On Heparin hematocrit drop 25.5-22.3 and increase in pulmonary bloody
   secretions, stopped heparin. Patient received one unit pRBCs and 2
   units FFP
   Weaned off propofol, patient tracked with eyes, restlessly moved limbs,
   tachycardic, hypertensive. Restarted low dose propofol. Given
   hematocrit drop did not attempt PS overnight.
   Converted medications to PO given gut working; some residuals this AM
   stopped TFs temporarily, giving lactulose
   Started captopril and uptitrated for BP control
   Stopped nitro drip
   Na fell 121 in setting of volume increasing; on schedule for early am
   HD to remove fluid
   7.35 / 34 / 155
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-10**] 01:30 PM
   Infusions:
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Metoprolol - [**2118-1-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Psychiatric / Sleep: Agitated, agitated with light sedation; now to
   higher level of sedation
   Flowsheet Data as of  [**2118-1-11**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 75 (75 - 106) bpm
   BP: 150/82(109) {127/72(91) - 188/101(138)} mmHg
   RR: 24 (23 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  3,102 mL
                                                                    714 mL
   PO:
           TF:
                                                                    610 mL
                                                                    195 mL
   IVF:
                                                                  1,177 mL
                                                                    275 mL
   Blood products:
                                                                    866 mL
                                                                     63 mL
   Total out:
                                                                     14 mL
                                                                      5 mL
   Urine:
                                                                     14 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,088 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.35/34/155/18/-5
   Ve: 8.9 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.6 g/dL
   141 mg/dL
   6.9 mg/dL
   18 mEq/L
   4.9 mEq/L
   132 mg/dL
   88 mEq/L
   121 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2118-1-8**]  05:40 PM
                             [**2118-1-9**]  04:08 AM
                             [**2118-1-9**]  05:53 AM
                             [**2118-1-10**]  03:33 AM
                             [**2118-1-10**]  03:51 AM
                             [**2118-1-10**]  04:21 PM
                             [**2118-1-10**]  05:44 PM
                             [**2118-1-10**]  10:59 PM
                             [**2118-1-11**]  03:51 AM
                             [**2118-1-11**]  03:57 AM
   WBC
   6.5
   10.3
   9.9
   8.5
   Hct
   26.1
   25.5
   23.2
   22.3
   29.3
   26.5
   Plt
   74
   82
   76
   77
   Cr
   5.1
   6.5
   6.7
   6.7
   6.9
   TCO2
   28
   25
   23
   20
   Glucose
   117
   161
   161
   129
   141
   Other labs: PT / PTT / INR:13.2/32.6/1.1, ALT / AST:41/32, Alk Phos / T
   Bili:109/0.8, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:788 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) as well as PAI deficiency,
   leading to pathologic bleeding and clotting, with resultant ESRD s/p
   renal transplant presenting with new acute renal failure; w/ acute
   pulmonary hemorrhage in the setting of starting heparin after d/c
   warfarin.
   RESPIRATORY FAILURE: due to acute lung injury, aspiration, pulmonary
   hemorrhage. Sputum culture with Serratia [**Last Name (un) **] to Levofloxacin. P/F
   increasing to 380 today. See below regarding pulmonary hemorrhage;
   stopped heparin and received FFP, and although had some bloody
   secretions suctioned back, chest x-ray and vent settings suggest no
   significant respiratory compromise from what was likely a very early
   stage of bleeding.
   * PULMONARY HEMORRHAGE: A drop in Hct overnight and some blood coming
   back from suction prompted cessation of heparin overnight. This is
   consistent with her last presentation of pulmonary hemorrhage which was
   also in the setting of heparin. In the longer run the patient still
   clearly needs anticoagulation.
   - discuss anticoagulation strategies with heme; ?lower heparin target,
   etc.
   - given the last presentation of pulmonary hemorrhage, it is likely
   that the patient, if extubated and with intact mental status, would be
   able to recognize earlier signs of pulmonary hemorrhage and that
   heparin could be stopped based on increasing dyspnea and O2
   requirements. Therefore at this point would not keep intubated for the
   sake of restarting anticoagulation.
   * ACUTE LUNG INJURY: in setting of aspirating blood and ? serratia PNA.
   Levofloxacin completing 7 day course, last day= [**1-12**]
   - P/F improving as above
   * MECHANICAL VENTILATION
   Currently starting pressure support trial on [**6-7**]. Doing well thus far.
   Goal will be SBT and move towards extubation. Likely will continue to
   need ICU stay for restarting heparin, close monitoring.
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Minimal urine output continuing. At this point her transplanted kidney
   is likely not to recover function, but still continuing immune
   suppression against rejection for now. Inflammation associated with
   acute rejection would likely be more dangerous than effects of
   continuing CellCept.
   - appreciate renal and transplant surgery input
   - continue prednisone for renal and heme purposes
   - holding sirolimus per renal
   - continue mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition.
   Plasmapheresis was considered but not initiated as risks were felt to
   outweight benefits. Will revisit this now that we are 1 week s/p IVIG.
   - will discuss with hematology, very much appreciate their ongoing
   recommendations
   - stopped heparin as above; will need to restart at some point soon,
   and will discuss how to do this safely with hematology and develop
   joint plan for treatment targets and monitoring
   - convert methyl pred to prednisone as patient now tolerating tube
   feeds (60 pred = 50 methylpred)
   ALTERED MENTAL STATUS: Patient continuing to have some lower body
   movements, and yesterday appeared to be tracking people in the room.
   Still with increased tone; this may be secondary to fentanyl sedation
   and we are taking this off now. CT head with ? mild edema,  but MRI/MRA
   negative. EEG with moderate encephalopathy and no sign of ongoing
   seizure activity.
   - appreciate neurology recs. Given patient vented, on heparin drip will
   not pursue MRI/MRA neck at this time as if found hematoma/clot would
   not intervene and patient exam has stabilized/improved.
   - continue to monitor neurologic exam
   - wean sedation as able
   FEVER: Sputum cx w/ SERRATIA MARCESCENS.  Blood cx pending w/o growth
   to date. Had been covered empirically w/ vancomycin and Levofloxacin
   but given sensitivities of serratia vanco d/c'd on [**1-8**] will continue
   Levofloxacin for a 7 day course (d1 = [**1-5**]). Last day = today.
   - culture if spikes, trend fever curve; afebrile recently
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension. One issue is that
   sedation continues to be kept on because she gets hypertensive without
   sedation; we will now try to wean sedation and aggressively treat
   hypertension in this context, with getting her off the vent being the
   primary goal.
   - cont amlodipine
   - convert metoprolol to PO
   - start capropril and uptitrate as needed (okay per renal)
   - nitro drip as needed
   - continue hydral 10 mg IV prn
   - goal BP <160
   ABDOMINAL Ileus: Improved on naloxone though again this AM had some
   residuals. Not on reglan due to dystonic rxn in past.
   - Lactulose prn
   - Wean fentanyl as able
   - naloxone + bowel regimen as long as on fentanyl; laxatives/stool
   softeners alone if not
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: holding psych meds for now to simplify regimen.
   - consider restarting in next 1-2 days given tolerating PO
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-11**] 03:57 AM 25 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-10**] 10:07 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  oral care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU still for now

2118-01-11 10:09:00 Physician Attending Progress Note
Chief Complaint: renal failure
   HPI:
   Admitted with renal failure and ?TTP, course complicated by ARDS [**3-6**]
   DAH vs TRALI.  Now with improved oxygenation and weaning vent settings.
   On HD.
   24 Hour Events:
   Bloody secretions and Hct drop yesterday - heparin stoped.
   Given 2 units FFP and 1 U PRBC
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-10**] 01:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2118-1-11**] 08:00 AM
   Other medications:
   Flowsheet Data as of  [**2118-1-11**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 77 (68 - 106) bpm
   BP: 171/91(126) {127/73(91) - 188/101(138)} mmHg
   RR: 26 (23 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  3,102 mL
                                                                    947 mL
   PO:
           TF:
                                                                    610 mL
                                                                    198 mL
   IVF:
                                                                  1,177 mL
                                                                    386 mL
   Blood products:
                                                                    866 mL
                                                                     63 mL
   Total out:
                                                                     14 mL
                                                                     12 mL
   Urine:
                                                                     14 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,088 mL
                                                                    935 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 483 (483 - 483) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.35/34/155/18/-5
   Ve: 8.3 L/min
   PaO2 / FiO2: 388
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Skin:  Not assessed
   Neurologic: When off sedation she closed eyes to command.
   No respiratory secretions, no hemoptysis today.
   Labs / Radiology
   9.6 g/dL
   77 K/uL
   141 mg/dL
   6.9 mg/dL
   18 mEq/L
   4.9 mEq/L
   132 mg/dL
   88 mEq/L
   121 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2118-1-8**]  05:40 PM
                             [**2118-1-9**]  04:08 AM
                             [**2118-1-9**]  05:53 AM
                             [**2118-1-10**]  03:33 AM
                             [**2118-1-10**]  03:51 AM
                             [**2118-1-10**]  04:21 PM
                             [**2118-1-10**]  05:44 PM
                             [**2118-1-10**]  10:59 PM
                             [**2118-1-11**]  03:51 AM
                             [**2118-1-11**]  03:57 AM
   WBC
   6.5
   10.3
   9.9
   8.5
   Hct
   26.1
   25.5
   23.2
   22.3
   29.3
   26.5
   Plt
   74
   82
   76
   77
   Cr
   5.1
   6.5
   6.7
   6.7
   6.9
   TCO2
   28
   25
   23
   20
   Glucose
   117
   161
   161
   129
   141
   Other labs: PT / PTT / INR:13.2/32.6/1.1, ALT / AST:41/32, Alk Phos / T
   Bili:109/0.8, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL, LDH:788 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   As per resident note. Briefly,
   1) Pulm. hemorage - Heparin stopped in setting of bloody secretions,
   hct drop. Will continue to hold anticoagulation for now. Oxygenation
   remains improved and no new infiltrate on CXR  today. Will f/u heme
   recs but seems at greater risk for bleed than clot at the present time.
   2) Respiratory Failure - ARDS [**3-6**] aspiration vs. DAH vs. TRALI . P/F >
   300. On pressure support [**6-7**]. Will f/u ABG on these settings. Mental
   status remains the greatest barrier to extubation. When off sedation
   she closed eyes to command. Sedation reinitiated because of possible
   explanation for hypertension, though she did not seem agitated when off
   sedation.
   3) Hypertension - Plan to control BP with IV drip. Will transition to
   intermittent dosing once extubated.
   4) Renal Failure - on HD. Cellcept + prednisone to continue. Will
   change over to PO.
   ICU Care
   Nutrition:
   Comments: Tube feeds held for residulas
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-10**] 10:07 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-01-12 07:57:00 Physician Resident Progress Note
Chief Complaint: complex heme disorder -> renal failure and pulmonary
   hemorrhage
   24 Hour Events:
 PICC LINE - START [**2118-1-11**] 02:59 PM
   - Restarted heparin gtt yesterday 7pm per hematology recommendations -
   discontinued this morning for bleeding around the site of the arterial
   and central lines
   - PICC line placed yesterday
   - Scheduled for tunnelled HD catheter placement and MRI cervical spine
   today
   - Started Phos-lo per renal recommendations
   - Tolerating tube feeds and had bowel movement overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2118-1-11**] 08:00 AM
   Hydralazine - [**2118-1-11**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2118-1-12**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 74 (69 - 81) bpm
   BP: 136/77(99) {94/62(72) - 171/92(126)} mmHg
   RR: 25 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,710 mL
                                                                    681 mL
   PO:
             TF:
                                                                    420 mL
                                                                    161 mL
   IVF:
                                                                    807 mL
                                                                    280 mL
   Blood products:
                                                                     63 mL
   Total out:
                                                                  3,512 mL
                                                                     10 mL
   Urine:
                                                                     12 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,802 mL
                                                                    671 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 320) mL
   Vt (Spontaneous): 309 (276 - 483) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 35.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/31/117/23/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Distant),
   quiet under vent sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: low-pitched rhonchi on vent)
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Not assessed, No(t) Rash: in limited exam
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   94 K/uL
   9.7 g/dL
   165 mg/dL
   4.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   63 mg/dL
   88 mEq/L
   126 mEq/L
   26.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2118-1-10**]  03:51 AM
                             [**2118-1-10**]  04:21 PM
                             [**2118-1-10**]  05:44 PM
                             [**2118-1-10**]  10:59 PM
                             [**2118-1-11**]  03:51 AM
                             [**2118-1-11**]  03:57 AM
                             [**2118-1-11**]  10:00 AM
                             [**2118-1-11**]  02:28 PM
                             [**2118-1-11**]  04:19 PM
                            [**2118-1-12**]  12:47 AM
   WBC
   9.9
   8.5
   8.2
   8.0
   Hct
   23.2
   22.3
   29.3
   26.5
   27.7
   26.9
   Plt
   76
   77
   91
   94
   Cr
   6.7
   6.7
   6.9
   4.2
   TCO2
   23
   20
   19
   26
   Glucose
   161
   129
   141
   165
   Other labs: PT / PTT / INR:13.3/43.8/1.1, ALT / AST:40/39, Alk Phos / T
   Bili:112/0.8, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:698 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) as well as PAI deficiency,
   leading to pathologic bleeding and clotting, with resultant ESRD s/p
   renal transplant presenting with new acute renal failure; w/ acute
   pulmonary hemorrhage in the setting of starting heparin after d/c
   warfarin.
   RESPIRATORY FAILURE: due to acute lung injury, aspiration, pulmonary
   hemorrhage. Doing well on PS this AM. Bleeding on line sites prompted
   stop of heparin again.
   * PULMONARY HEMORRHAGE: No evidence of new hemorrhage. Stopped with
   peripheral bleeding. Will discuss new heparin targets with heme/onc.
   Last tries have been at rate of 550 units/hr so should shoot for below
   this, assuming labs will show quite subtherapeutic range, target this
   subtherapeutic range.
   * ACUTE LUNG INJURY: in setting of aspirating blood and ? serratia PNA.
   Levofloxacin completed
   - P/F improving as above
   * MECHANICAL VENTILATION
   Doing well on pressure support.
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Minimal urine output continuing. At this point her transplanted kidney
   is likely not to recover function, but still continuing immune
   suppression against rejection for now. Inflammation associated with
   acute rejection would likely be more dangerous than effects of
   continuing CellCept.
   - appreciate renal and transplant surgery input
   - continue prednisone for renal and heme purposes
   - holding sirolimus per renal
   - continue mycophenolate mofetil
   - continue with HD; will go on to Sat/Tues/Thurs schedule now
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition.
   Plasmapheresis was considered but not initiated as risks were felt to
   outweight benefits. Will revisit this now that we are 1 week s/p IVIG.
   - will discuss with hematology, very much appreciate their ongoing
   recommendations
   - stopped heparin as above; will need to restart at some point soon,
   and will discuss how to do this safely with hematology and develop
   joint plan for treatment targets and monitoring
   - convert methyl pred to prednisone as patient now tolerating tube
   feeds (60 pred = 50 methylpred)
   ALTERED MENTAL STATUS: Patient continuing to have some lower body
   movements, and yesterday appeared to be tracking people in the room.
   Still with increased tone; this may be secondary to fentanyl sedation
   and we are taking this off now. CT head with ? mild edema,  but MRI/MRA
   negative. EEG with moderate encephalopathy and no sign of ongoing
   seizure activity.
   - appreciate neurology recs. Given patient vented, on heparin drip will
   not pursue MRI/MRA neck at this time as if found hematoma/clot would
   not intervene and patient exam has stabilized/improved.
   - continue to monitor neurologic exam
   - wean sedation as able
   FEVER: Sputum cx w/ SERRATIA MARCESCENS.  Blood cx pending w/o growth
   to date. Had been covered empirically w/ vancomycin and Levofloxacin
   but given sensitivities of serratia vanco d/c'd on [**1-8**] will continue
   Levofloxacin for a 7 day course (d1 = [**1-5**]). Last day = today.
   - culture if spikes, trend fever curve; afebrile recently
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension. One issue is that
   sedation continues to be kept on because she gets hypertensive without
   sedation; we will now try to wean sedation and aggressively treat
   hypertension in this context, with getting her off the vent being the
   primary goal.
   - cont amlodipine
   - convert metoprolol to PO
   - start capropril and uptitrate as needed (okay per renal)
   - nitro drip as needed
   - continue hydral 10 mg IV prn
   - goal BP <160
   ABDOMINAL Ileus: Improved on naloxone though again this AM had some
   residuals. Not on reglan due to dystonic rxn in past.
   - Lactulose prn
   - Wean fentanyl as able
   - naloxone + bowel regimen as long as on fentanyl; laxatives/stool
   softeners alone if not
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: holding psych meds for now to simplify regimen.
   - consider restarting in next 1-2 days given tolerating PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-10**] 10:07 AM
   PICC Line - [**2118-1-11**] 02:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-12 11:28:00 Physician Attending Progress Note
Chief Complaint: Renal failure
   HPI:
   54 year old woman with SLE, ESRd s/p renal transplant. P/W new renal
   failure, ARDS in setting DAH. Now restarted on heparin drip [**3-6**] ongoing
   risk of coagulation(antiphospohlipid ab syndrome).
   24 Hour Events:
 PICC LINE - START [**2118-1-11**] 02:59 PM
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2118-1-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-12**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 72 (72 - 81) bpm
   BP: 137/76(98) {94/62(72) - 163/90(118)} mmHg
   RR: 25 (22 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,710 mL
                                                                  1,011 mL
   PO:
             TF:
                                                                    420 mL
                                                                    258 mL
   IVF:
                                                                    807 mL
                                                                    393 mL
   Blood products:
                                                                     63 mL
   Total out:
                                                                  3,512 mL
                                                                     23 mL
   Urine:
                                                                     12 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,802 mL
                                                                    988 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 320) mL
   Vt (Spontaneous): 298 (298 - 352) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/31/117/23/2
   Ve: 6.4 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Bronchial: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   94 K/uL
   165 mg/dL
   4.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   63 mg/dL
   88 mEq/L
   126 mEq/L
   26.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2118-1-10**]  03:51 AM
                             [**2118-1-10**]  04:21 PM
                             [**2118-1-10**]  05:44 PM
                             [**2118-1-10**]  10:59 PM
                             [**2118-1-11**]  03:51 AM
                             [**2118-1-11**]  03:57 AM
                             [**2118-1-11**]  10:00 AM
                             [**2118-1-11**]  02:28 PM
                             [**2118-1-11**]  04:19 PM
                            [**2118-1-12**]  12:47 AM
   WBC
   9.9
   8.5
   8.2
   8.0
   Hct
   23.2
   22.3
   29.3
   26.5
   27.7
   26.9
   Plt
   76
   77
   91
   94
   Cr
   6.7
   6.7
   6.9
   4.2
   TCO2
   23
   20
   19
   26
   Glucose
   161
   129
   141
   165
   Other labs: PT / PTT / INR:13.3/43.8/1.1, ALT / AST:40/39, Alk Phos / T
   Bili:112/0.8, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:698 IU/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   54 year old woman with renal failure and coagulopathy
   1) Lupus anticoagulant , TMA - Heparin off last night [**3-6**] bleedin gfrom
   line site. While heparin is off will try to get a tunelled dialysis
   line, then restart at low dose. Awaiting heme recs as to utility of
   pheresis in settin gof ongoin hemolysis. Continues on prednisone.
   2) Renal Failure - on tiw HD now. Htn likely related to progressive
   volume overload, can consider daily HD if becomes a [**Last Name 6966**] problem.
   Prednisone + cellcept for (now presumably failed) graft.
   3) Respiratory Failure - [**3-6**] ARDS. Oxygenation improved and does wake
   up off propofol. SBT today on 0/0 for at least 20-30 minutes (too
   ensure she tolerates increased preload) then look to extubate.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-12**] 06:25 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2118-1-3**] 02:25 PM
   Arterial Line - [**2118-1-4**] 12:06 PM
   18 Gauge - [**2118-1-10**] 10:07 AM
   PICC Line - [**2118-1-11**] 02:59 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-13 08:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PHERESIS CATHETER - STOP [**2118-1-12**] 02:30 PM
 DIALYSIS CATHETER - START [**2118-1-12**] 03:24 PM
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Nitroglycerin - 0.4 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2118-1-12**] 02:00 PM
   Hydralazine - [**2118-1-13**] 05:00 AM
   Midazolam (Versed) - [**2118-1-13**] 05:30 AM
   Lansoprazole (Prevacid) - [**2118-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia, Coagulopathy, bleeding at a-line site ongoing
   Flowsheet Data as of  [**2118-1-13**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 96 (68 - 105) bpm
   BP: 146/81(105) {131/68(93) - 173/94(124)} mmHg
   RR: 23 (15 - 47) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  2,417 mL
                                                                    980 mL
   PO:
           TF:
                                                                    726 mL
                                                                    223 mL
   IVF:
                                                                    604 mL
                                                                    284 mL
   Blood products:
                                                                    547 mL
                                                                    273 mL
   Total out:
                                                                     33 mL
                                                                     29 mL
   Urine:
                                                                     33 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,384 mL
                                                                    951 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 474 (290 - 474) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.42/35/147/21/0
   NIF: -20 cmH2O
   Ve: 8.7 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Increased
   Labs / Radiology
   107 K/uL
   8.5 g/dL
   169 mg/dL
   5.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   95 mg/dL
   84 mEq/L
   121 mEq/L
   23.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2118-1-11**]  10:00 AM
                             [**2118-1-11**]  02:28 PM
                             [**2118-1-11**]  04:19 PM
                            [**2118-1-12**]  12:47 AM
                            [**2118-1-12**]  11:25 AM
                            [**2118-1-12**]  12:50 PM
                            [**2118-1-12**]  05:25 PM
                            [**2118-1-13**]  05:12 AM
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
   WBC
   8.2
   8.0
   9.4
   12.3
   Hct
   27.7
   26.9
   26.0
   23.5
   Plt
   91
   94
   94
   107
   Cr
   4.2
   5.7
   TCO2
   19
   26
   24
   25
   24
   23
   Glucose
   165
   169
   Other labs: PT / PTT / INR:12.8/32.3/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:102/0.7, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:627 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) as well as PAI deficiency,
   leading to pathologic bleeding and clotting, with resultant ESRD s/p
   renal transplant presenting with new acute renal failure; w/ acute
   pulmonary hemorrhage in the setting of starting heparin after d/c
   warfarin.
   RESPIRATORY FAILURE: due to acute lung injury, aspiration, pulmonary
   hemorrhage. Doing well on PS this AM. Bleeding on line sites prompted
   stop of heparin again.
   * PULMONARY HEMORRHAGE: No evidence of new hemorrhage. Stopped with
   peripheral bleeding. Will discuss new heparin targets with heme/onc.
   Last tries have been at rate of 550 units/hr so should shoot for below
   this, assuming labs will show quite subtherapeutic range, target this
   subtherapeutic range.
   * ACUTE LUNG INJURY: in setting of aspirating blood and ? serratia PNA.
   Levofloxacin completed
   - P/F improving as above
   * MECHANICAL VENTILATION
   Doing well on pressure support. Measure NIF. Evaluate mental status as
   component of possible extubation. Doing well enough in terms of
   respiratory parameters to contemplate this if she can participate. Try
   to avoid sedation to see if we can get her more alert.
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Minimal urine output continuing. At this point her transplanted kidney
   is likely not to recover function, but still continuing immune
   suppression against rejection for now. Inflammation associated with
   acute rejection would likely be more dangerous than effects of
   continuing CellCept.
   - appreciate renal and transplant surgery input
   - continue prednisone for renal and heme purposes
   - holding sirolimus per renal
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition.
   Plasmapheresis was considered but not initiated as risks were felt to
   outweight benefits. Will revisit this now that we are 1 week s/p IVIG.
   -          discuss TPE w heme
   -          continue steroid tx
   -          follow LDH and smears
   -          Hct, transfuse <25
   ALTERED MENTAL STATUS: Patient continuing to have improvement, though
   still not following commands. Sedation vs hypoxic brain injury earlier
   in course vs?.
   - continue to monitor neurologic exam
   - wean sedation as able
   - holding psych meds for now
   STIFF LEGS: Increased motor tone has decreased in severity and she is
   moving her legs; however neuro exam remains abnormal.
   - C-spine MRI to follow up earlier evaluation
   FEVER: Sputum cx w/ SERRATIA MARCESCENS.  No positive blood cultures.
   Completed treatment with levo.
   - culture if spikes, trend fever curve; afebrile recently
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension. One issue is that
   sedation continues to be kept on because she gets hypertensive without
   sedation; we will now try to wean sedation and aggressively treat
   hypertension in this context, with getting her off the vent being the
   primary goal.
   - cont amlodipine
   - metoprolol PO
   - start capropril and uptitrate as needed (okay per renal)
   - nitro drip as needed
   - continue hydral 10 mg IV prn
   - goal BP <160
   ABDOMINAL Ileus: Naloxone only with fentanyl sedation. No reglan b/c of
   past dystonic reaction.
   - Lactulose prn
   - Wean fentanyl as able
   - naloxone + bowel regimen as long as on fentanyl; laxatives/stool
   softeners alone if not
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: holding psych meds for now to simplify regimen.
   - consider restarting tomorrow
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-13**] 06:03 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2118-1-4**] 12:06 PM
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-13 10:19:00 Physician Attending Progress Note
Chief Complaint: Renal failure
   HPI:
   See previous noted for details.Briefly, 54 year old woman with PMH SLE,
   TMA, anti-phospholipid Ab, PAI def. and resulting bleeding diathesis,
   ESRD s/p renal transplant a/w with new onset renal failure , c/b DAH
   and ARDS in setting of therapeutic anticoagulation.
   24 Hour Events:
 PHERESIS CATHETER - STOP [**2118-1-12**] 02:30 PM
 DIALYSIS CATHETER - START [**2118-1-12**] 03:24 PM
   Heparin not restarted [**3-6**] bleeding from aline site.
   PS o/n , on SBT now.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2118-1-12**] 02:00 PM
   Hydralazine - [**2118-1-13**] 05:00 AM
   Midazolam (Versed) - [**2118-1-13**] 05:30 AM
   Lansoprazole (Prevacid) - [**2118-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:none
   Review of systems is unchanged from admission except as noted below
   Review of systems:none
   Flowsheet Data as of  [**2118-1-13**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (68 - 105) bpm
   BP: 169/90(123) {131/68(93) - 173/94(124)} mmHg
   RR: 23 (15 - 47) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  2,417 mL
                                                                  1,024 mL
   PO:
           TF:
                                                                    726 mL
                                                                    254 mL
   IVF:
                                                                    604 mL
                                                                    297 mL
   Blood products:
                                                                    547 mL
                                                                    273 mL
   Total out:
                                                                     33 mL
                                                                     29 mL
   Urine:
                                                                     33 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,384 mL
                                                                    995 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 327 (290 - 474) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/35/147/21/0
   NIF: -20 cmH2O
   Ve: 9.1 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Sig. bleeding from L aline
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   107 K/uL
   169 mg/dL
   5.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   95 mg/dL
   84 mEq/L
   121 mEq/L
   23.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2118-1-11**]  10:00 AM
                             [**2118-1-11**]  02:28 PM
                             [**2118-1-11**]  04:19 PM
                            [**2118-1-12**]  12:47 AM
                            [**2118-1-12**]  11:25 AM
                            [**2118-1-12**]  12:50 PM
                            [**2118-1-12**]  05:25 PM
                            [**2118-1-13**]  05:12 AM
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
   WBC
   8.2
   8.0
   9.4
   12.3
   Hct
   27.7
   26.9
   26.0
   23.5
   Plt
   91
   94
   94
   107
   Cr
   4.2
   5.7
   TCO2
   19
   26
   24
   25
   24
   23
   Glucose
   165
   169
   Other labs: PT / PTT / INR:12.8/32.3/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:102/0.7, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:627 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   Plans as per resident note. Briefly, plan to extubate today. getting HD
   which will hopefully improve BP control. Anticoagulatioon remains a
   challenge. Very sig. bleeding from aline site. will hold off on
   restarting  heparin for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-13**] 06:03 AM 25 mL/hour
   Comments: On hold for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2118-1-4**] 12:06 PM
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-13 14:09:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder; renal failure;
   pulmonary hemorrhage
   24 Hour Events:
 PHERESIS CATHETER - STOP [**2118-1-12**] 02:30 PM
 DIALYSIS CATHETER - START [**2118-1-12**] 03:24 PM
   This note reflects assessment and plan from this AM; it contains data
   up until 2 pm because the original AM note was apparently lost in
   Metavision.
   Events overnight
   Heme-Onc said OK to start heparin with lower target after [**Year (4 digits) **]
   continued to bleed from A-line site including after [**Year (4 digits) **] 2U; held off on
   heparin; ordering two more units [**Last Name (LF) **], [**First Name3 (LF) **] to pull a-line if can get
   extubated this AM
   attempted to keep off enduring sedation; gave Versed boluses for
   anxiety; nitro drip for high BP
   stayed on pressure support
   in addition: this morning:
   prepared for extubation with successful spontaneous breathing trial
   underwent dialysis
   as note is being written:
   recently extubated
 and being reintubated. Further notes to follow from
   other team members.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2118-1-12**] 02:00 PM
   Hydralazine - [**2118-1-13**] 05:00 AM
   Midazolam (Versed) - [**2118-1-13**] 05:30 AM
   Lansoprazole (Prevacid) - [**2118-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2118-1-13**] 02:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 92 (68 - 105) bpm
   BP: 139/81(89) {113/66(76) - 141/81(89)} mmHg
   RR: 25 (15 - 47) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  2,417 mL
                                                                  1,367 mL
   PO:
           TF:
                                                                    726 mL
                                                                    253 mL
   IVF:
                                                                    604 mL
                                                                    297 mL
   Blood products:
                                                                    547 mL
                                                                    617 mL
   Total out:
                                                                     33 mL
                                                                     29 mL
   Urine:
                                                                     33 mL
                                                                     29 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,384 mL
                                                                  1,338 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent, Endotracheal tube
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 432 (290 - 593) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.42/35/147/21/0
   NIF: -20 cmH2O
   Ve: 7.1 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): not verbally
   responsive, appears to respond to questions, following commands
   intermittently, Movement: Not assessed, Tone: Increased
   Labs / Radiology
   107 K/uL
   8.5 g/dL
   169 mg/dL
   5.7 mg/dL
   21 mEq/L
   4.3 mEq/L
   95 mg/dL
   84 mEq/L
   121 mEq/L
   23.5 %
   12.3 K/uL
        [image002.jpg]
                             [**2118-1-11**]  10:00 AM
                             [**2118-1-11**]  02:28 PM
                             [**2118-1-11**]  04:19 PM
                            [**2118-1-12**]  12:47 AM
                            [**2118-1-12**]  11:25 AM
                            [**2118-1-12**]  12:50 PM
                            [**2118-1-12**]  05:25 PM
                            [**2118-1-13**]  05:12 AM
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
   WBC
   8.2
   8.0
   9.4
   12.3
   Hct
   27.7
   26.9
   26.0
   23.5
   Plt
   91
   94
   94
   107
   Cr
   4.2
   5.7
   TCO2
   19
   26
   24
   25
   24
   23
   Glucose
   165
   169
   Other labs: PT / PTT / INR:12.8/32.3/1.1, ALT / AST:36/37, Alk Phos / T
   Bili:102/0.7, Differential-Neuts:96.0 %, Lymph:1.8 %, Mono:1.8 %,
   Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:627 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) as well as PAI deficiency,
   leading to pathologic bleeding and clotting, with resultant ESRD s/p
   renal transplant presenting with new acute renal failure; w/ acute
   pulmonary hemorrhage in the setting of starting heparin after d/c
   warfarin.
   RESPIRATORY FAILURE: due to acute lung injury, aspiration, pulmonary
   hemorrhage. Doing well on PS this AM. Bleeding on line sites prompted
   stop of heparin again.
   * PULMONARY HEMORRHAGE: No evidence of new hemorrhage. Heparin stopped
   as below.
   * ACUTE LUNG INJURY: in setting of aspirating blood and ? serratia PNA.
   Levofloxacin completed
   - P/F improving as above
   * MECHANICAL VENTILATION
   Doing well on pressure support and SBT. Plan this AM to extubate. Note
   evolving events as the data for this note were imported into it;
   respiratory data above reflects end of trial of extubation. Reflecting
   AM assessment, decision to extubate based on excellent data, doing very
   well with good gasses on SBT as well as on minimal PS settings.
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Essentially anuric. At this point her transplanted kidney is likely not
   to recover function, but still continuing immune suppression against
   rejection for now
   - appreciate renal input
   - continue prednisone for renal and heme purposes
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. Heparin
   started and stopped after A-line bleeding. A-line bleeding continued
   through the night.
   -       plan this AM to pull A-line and hold pressure which we did; had
   held overnight in anticipation of needing multiple blood gasses
   pre-extubation.
   -          continue steroid tx
   -          follow LDH and smears
   -          Hct, transfuse <25
   ALTERED MENTAL STATUS: Patient continuing to have improvement, though
   still not following commands. Sedation vs hypoxic brain injury earlier
   in course vs ?.
   - continue to monitor neurologic exam
   - wean sedation as able
   - holding psych meds for now
   STIFF LEGS: Increased motor tone has decreased in severity and she is
   moving her legs; however neuro exam remains abnormal.
   - C-spine MRI to follow up earlier evaluation
will schedule for today
   FEVER: Sputum cx w/ SERRATIA MARCESCENS.  No positive blood cultures.
   Completed treatment with levo.
   - culture if spikes, trend fever curve; afebrile recently
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.
   - cont amlodipine
   - metoprolol PO
   - start capropril and uptitrate as needed (okay per renal)
   - nitro drip as needed
   - continue hydral 10 mg IV prn
   - goal BP <160
   ABDOMINAL Ileus: Naloxone only with fentanyl sedation. No reglan b/c of
   past dystonic reaction.
   - Lactulose prn
   - Wean fentanyl as able
   - naloxone + bowel regimen as long as on fentanyl; laxatives/stool
   softeners alone if not
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give [**Year (4 digits) **].
   - Guaiac stools
   DEPRESSION/ANXIETY: holding psych meds for now to simplify regimen.
   ICU Care
   Nutrition:
   Glycemic Control:  adequate
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   VAP:  oral care, HOB, etc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2118-01-14 07:56:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2118-1-13**] 11:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2118-1-13**] 07:30 PM
   Failed extubation - very weak
   Pulled a-line
   MRI brain and c-spine
   stopped levofloxacin
   Transfused 1 unit pRBCs HCT 23 --> HCT went to 24.1
   Bleeding from PICC site, coffee grounds from NG ube -- got 2 units FFP
   Bilious NG secretions, unable to take PO
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2118-1-13**] 08:00 AM
   Vecuronium - [**2118-1-13**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-14**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 112 (89 - 112) bpm
   BP: 148/77(93) {88/48(60) - 198/81(109)} mmHg
   RR: 14 (14 - 62) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  1,685 mL
                                                                  1,317 mL
   PO:
           TF:
                                                                    253 mL
   IVF:
                                                                    544 mL
                                                                    336 mL
   Blood products:
                                                                    648 mL
                                                                    921 mL
   Total out:
                                                                  4,034 mL
                                                                    250 mL
   Urine:
                                                                     34 mL
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,349 mL
                                                                  1,067 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 400) mL
   Vt (Spontaneous): 468 (315 - 593) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 19 cmH2O
   Plateau: 33 cmH2O
   SpO2: 100%
   ABG: 7.44/41/193/23/4
   Ve: 9.9 L/min
   PaO2 / FiO2: 386
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, Sedated, Tone: Increased,
   intermittantly
   Labs / Radiology
   106 K/uL
   8.7 g/dL
   149 mg/dL
   3.7 mg/dL
   23 mEq/L
   6.1 mEq/L
   44 mg/dL
   94 mEq/L
   132 mEq/L
   24.1 %
   13.4 K/uL
        [image002.jpg]
   VBG 7.39/47/74
   ABG 7.44/41/193
                            [**2118-1-12**]  11:25 AM
                            [**2118-1-12**]  12:50 PM
                            [**2118-1-12**]  05:25 PM
                            [**2118-1-13**]  05:12 AM
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
                            [**2118-1-13**]  04:37 PM
                            [**2118-1-13**]  10:56 PM
                            [**2118-1-14**]  04:40 AM
                            [**2118-1-14**]  06:52 AM
   WBC
   9.4
   12.3
   13.4
   Hct
   26.0
   23.5
   28.4
   23.9
   24.1
   Plt
   94
   107
   106
   Cr
   5.7
   3.3
   3.7
   TCO2
   24
   25
   24
   23
   29
   Glucose
   169
   110
   149
   Other labs: PT / PTT / INR:13.4/33.6/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:36/37, Alk Phos / T Bili:102/0.7, Differential-Neuts:96.0 %,
   Lymph:1.8 %, Mono:1.8 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.8
   g/dL, LDH:615 IU/L, Ca++:5.6 mg/dL, Mg++:1.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   54 year old woman with lupus antiphospholipid and prior thrombotic
   microangiopathic hemolytic anemia (TMA) as well as PAI deficiency,
   leading to pathologic bleeding and clotting, with resultant ESRD s/p
   renal transplant presenting with new acute renal failure; w/ acute
   pulmonary hemorrhage in the setting of starting heparin after d/c
   warfarin.
   HYPERKALEMIA
   RESPIRATORY FAILURE: due to acute lung injury, aspiration, pulmonary
   hemorrhage. Doing well on PS this AM. Bleeding on line sites prompted
   stop of heparin again.
   * PULMONARY HEMORRHAGE: No evidence of new hemorrhage. Heparin stopped
   as below.
   * ACUTE LUNG INJURY: in setting of aspirating blood and ? serratia PNA.
   Levofloxacin completed
   - P/F improving as above
   * MECHANICAL VENTILATION
   Doing well on pressure support and SBT. Plan this AM to extubate. Note
   evolving events as the data for this note were imported into it;
   respiratory data above reflects end of trial of extubation. Reflecting
   AM assessment, decision to extubate based on excellent data, doing very
   well with good gasses on SBT as well as on minimal PS settings.
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Essentially anuric. At this point her transplanted kidney is likely not
   to recover function, but still continuing immune suppression against
   rejection for now
   - appreciate renal input
   - continue prednisone for renal and heme purposes
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. Heparin
   started and stopped after A-line bleeding. A-line bleeding continued
   through the night.
   -       plan this AM to pull A-line and hold pressure which we did; had
   held overnight in anticipation of needing multiple blood gasses
   pre-extubation.
   -          continue steroid tx
   -          follow LDH and smears
   -          Hct, transfuse <25
   ALTERED MENTAL STATUS: Patient continuing to have improvement, though
   still not following commands. Sedation vs hypoxic brain injury earlier
   in course vs ?.
   - continue to monitor neurologic exam
   - wean sedation as able
   - holding psych meds for now
   STIFF LEGS: Increased motor tone has decreased in severity and she is
   moving her legs; however neuro exam remains abnormal.
   - C-spine MRI to follow up earlier evaluation
will schedule for today
   FEVER: Sputum cx w/ SERRATIA MARCESCENS.  No positive blood cultures.
   Completed treatment with levo.
   - culture if spikes, trend fever curve; afebrile recently
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.
   - cont amlodipine
   - metoprolol PO
   - start capropril and uptitrate as needed (okay per renal)
   - nitro drip as needed
   - continue hydral 10 mg IV prn
   - goal BP <160
   ABDOMINAL Ileus: Naloxone only with fentanyl sedation. No reglan b/c of
   past dystonic reaction.
   - Lactulose prn
   - Wean fentanyl as able
   - naloxone + bowel regimen as long as on fentanyl; laxatives/stool
   softeners alone if not
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: holding psych meds for now to simplify regimen.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  insulin
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT:  boots
   Stress ulcer: PPI
   VAP:  precautions, [**Last Name (un) 3406**] >100
   Communication:  sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2118-01-14 09:52:00 Physician Attending Progress Note
Chief Complaint: Renal failure, hemolysis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   54 year old woman with complicated PMH of SLE, ESRD s/p renal
   transplant, TMA, TPAi defciency and resulting bleeding diathesis
   presented with failure of transplanted kidney, new hemolysis. Course
   c/b DAH and resulted ARDS. Extubated and re-intubated yesterday.
   24 Hour Events:
   Failed extubation within ~45 minutes
   Aline [**3-6**] conintued bleeding
   Now bleeding from PICC site
   Coffee grounds from NG tube - s/p 2 units FFP
   1 U PRBC given yesterday - Hct failed to bump appropriately.
   MRI Brain + cspine yesterday.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Levofloxacin - [**2118-1-11**] 03:16 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2118-1-13**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-14**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.9
   HR: 112 (89 - 112) bpm
   BP: 131/64(79) {88/48(60) - 198/81(109)} mmHg
   RR: 22 (14 - 62) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52 kg (admission): 50 kg
           Total In:
                                                                  1,685 mL
                                                                  1,331 mL
   PO:
           TF:
                                                                    253 mL
   IVF:
                                                                    544 mL
                                                                    350 mL
   Blood products:
                                                                    648 mL
                                                                    921 mL
   Total out:
                                                                  4,034 mL
                                                                    257 mL
   Urine:
                                                                     34 mL
                                                                      7 mL
   NG:
   250 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,349 mL
                                                                  1,074 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 400) mL
   Vt (Spontaneous): 486 (315 - 593) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 103
   PIP: 20 cmH2O
   Plateau: 33 cmH2O
   SpO2: 96%
   ABG: 7.44/41/193/26/4
   Ve: 8.8 L/min
   PaO2 / FiO2: 386
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   106 K/uL
   115 mg/dL
   3.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   48 mg/dL
   94 mEq/L
   135 mEq/L
   24.8 %
   13.4 K/uL
        [image002.jpg]
                            [**2118-1-12**]  12:50 PM
                            [**2118-1-12**]  05:25 PM
                            [**2118-1-13**]  05:12 AM
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
                            [**2118-1-13**]  04:37 PM
                            [**2118-1-13**]  10:56 PM
                            [**2118-1-14**]  04:40 AM
                            [**2118-1-14**]  06:52 AM
                            [**2118-1-14**]  07:39 AM
   WBC
   9.4
   12.3
   13.4
   Hct
   26.0
   23.5
   28.4
   23.9
   24.1
   24.8
   Plt
   94
   107
   106
   Cr
   5.7
   3.3
   3.7
   3.9
   TCO2
   25
   24
   23
   29
   Glucose
   169
   110
   149
   115
   Other labs: PT / PTT / INR:13.4/33.6/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:36/37, Alk Phos / T Bili:102/0.7, Differential-Neuts:96.0 %,
   Lymph:1.8 %, Mono:1.8 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.8
   g/dL, LDH:615 IU/L, Ca++:5.6 mg/dL, Mg++:1.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Plan as per resident note. Briefly, 54 year old woman with PMH as above
   who failed extubation yesterday likely secondary weakness and possbile
   aspiration/mucous plugging. Now on minimal [**Year (4 digits) **] settings but looks
   unlikely to wean to soon. Also concerned that she continues to have
   hemolysis as evidenced by declining hct, ongoing oozing, schistocytes
   on peripheral smear. She will not tolerate anticoagulation so will put
   this on hold inedfinitiely. Prn blood product support and will speak to
   heme re: any role for pheresis now. From a pulmonary standpoint she is
   stable on the [**Last Name (LF) **], [**First Name3 (LF) 178**] wean O2 and pursue tracheostomy. Neurologicaly
   she certainly has a sig. component of myopathy and we should fairly
   urgently seek to decrease her steroid dose. Will t/b with heme and
   renal. Prelim on brain/c-spine MRI yesterday is negative so doubt
   central component to her weakness.
   ICU Care
   Nutrition:
   Comments: On hold [**3-6**] bloody residulas
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Long discussion via phone with sister
   yesterday re: liklihood of long hospital/rehab course
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-15 07:40:00 Physician Attending Progress Note
Chief Complaint: renal failure, hemolysis
   Patient seen and d/w MICU resident.  Agree with his/her note, including
   the impression and plan.
   HPI:
   54 yo F w/complicated PMH of SLE, ESRD s/p renal transplant, APLAS,
   TMA, TPAi deficiency and resulting bleeding diathesis p/w failure of
   transplanted kidney, new hemolysis. Course c/b DAH and resulting ARDS;
   extubated and re-intubated [**1-14**].
   24 Hour Events:
   Hct drop 24.8
 21.5, transfused 2U PRBC w/Hct bump to 27.3
   Prednisone tapered from 60mg qd to 40mg qd
   MRI brain and C-spine, no acute process on final read
   IP consulted for trach/PEG
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Prevacid
   Other medications:
   Cellcept 100mg iv bid
   Lopressor 25mg po q6hrs
   Captopril 25 tid
   Narcan 2mg tid
   Prednisone 40mg po qd
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-15**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 61 (61 - 112) bpm
   BP: 134/67(84) {116/56(71) - 167/84(98)} mmHg
   RR: 32 (14 - 48) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  2,489 mL
                                                                    348 mL
   PO:
             TF:
                                                                     50 mL
                                                                    113 mL
   IVF:
                                                                    800 mL
                                                                    235 mL
   Blood products:
                                                                  1,579 mL
   Total out:
                                                                    364 mL
                                                                     15 mL
   Urine:
                                                                     14 mL
                                                                     15 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,125 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (390 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7 L/min
   Physical Examination
   Intubated and sedated, opens eyes to voice, not following commands
   CTAB anteriorly
   Nl s1s2, regular, no m/r/g
   Abd soft, NT, ND, hypoactive BS
   Ext warm, no significant edema
   [**Year (4 digits) 503**] / Radiology
   10.2 g/dL
   107 K/uL
   115 mg/dL
   5.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   72 mg/dL
   91 mEq/L
   130 mEq/L
   27.2 %
   8.9 K/uL
        [image002.jpg]
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
                            [**2118-1-13**]  04:37 PM
                            [**2118-1-13**]  10:56 PM
                            [**2118-1-14**]  04:40 AM
                            [**2118-1-14**]  06:52 AM
                            [**2118-1-14**]  07:39 AM
                            [**2118-1-14**]  04:00 PM
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
   WBC
   13.4
   8.9
   Hct
   28.4
   23.9
   24.1
   24.8
   21.5
   27.3
   27.2
   Plt
   106
   107
   Cr
   3.3
   3.7
   3.9
   4.3
   5.1
   TCO2
   24
   23
   29
   Glucose
   110
   149
   115
   91
   115
   Other [**Year (4 digits) **]: PT / PTT / INR:12.9/29.8/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/1.1, Differential-Neuts:96.0 %,
   Lymph:1.8 %, Mono:1.8 %, Eos:0.2 %, Fibrinogen:662 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:591 IU/L (decreasing), Ca++:8.7
   mg/dL, Mg++:2.6 mg/dL, PO4:6.8 mg/dL
   Portable CXR
 b/l hazy opacities, no significant change c/w prior
   Assessment and Plan
   Plan as per resident note.
   Briefly, 54 yo F w/PMHx of SLE, ESRD s/p renal transplant, APLAS, TMA,
   TPAi deficiency and resulting bleeding diathesis p/w failure of
   transplanted kidney, new hemolysis. Course c/b DAH and resulting ARDS.
   s/p failed extubation [**1-14**] likely secondary to weakness and possible
   aspiration/mucous plugging.
   -Hemolysis- appropriate hct bump yest post tf, follow Hct/smear/LDH, tf
   for Hct <25.  She will not tolerate anticoagulation so will put this on
   hold indefinitely.  Per heme, no role for pheresis [**3-6**] bleeding risk
   (bleeding rather than clotting is [**Last Name 1588**] problem).
   -Respiratory failure- she is stable on the vent w/minimal settings,
   will wean peep and pursue tracheostomy given unlikely to wean
   w/weakness.  No new e/o pulmonary hemorrhage.  s/p course of abx for
   serratia.
   -Altered mental status- recent MRI brain negative for bleed/infarct.
   Maybe partially sedation related, will try to wean fentanyl today.  No
   clear source of infection to explain.  Will send delta MS [**Last Name (Titles) **].  ?need
   for EEG (doubt sz).  F/u neuro recs.
   -Weakness- sig component of myopathy, tapering steroids. Brain/c-spine
   MRI negative so doubt central component to her weakness.
   -Ileus- bowel regimen, po narcan
   -FEN- tolerating TF, advance to goal of 25cc/hr
   -Renal failure, anuric- cont HD, tapering steroids, cont cellcept,
   renal following
   -HTN- BP control decent on BB and ACEI, goal SBP<160.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-14**] 07:00 PM 20 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:  Prevacid
   VAP: peridex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 45 minutes

2118-01-15 08:03:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder; renal failure;
   pulmonary hemorrhage
   24 Hour Events:
   - Hematocrit drop 24.8->21.5, status post 2U pRBC with appropriate
   response (27.3)
   - Decreased prednisone from 60 mg to 40 mg after discussion with renal;
   hematology aware
   - MRI brain and C-spine showed no acute process
   - Consulted IP re: tracheostomy/PEG for early next week
   - Discontinued amlodipine
   - Erythromycin PO x 1 for ileus
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-15**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 61 (61 - 98) bpm
   BP: 134/67(84) {116/56(71) - 167/84(98)} mmHg
   RR: 32 (14 - 48) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  2,489 mL
                                                                    358 mL
   PO:
             TF:
                                                                     50 mL
                                                                    120 mL
   IVF:
                                                                    800 mL
                                                                    238 mL
   Blood products:
                                                                  1,579 mL
   Total out:
                                                                    364 mL
                                                                     15 mL
   Urine:
                                                                     14 mL
                                                                     15 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,125 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (390 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 7 L/min
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : on
   limited anterior exam)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   107 K/uL
   10.2 g/dL
   115 mg/dL
   5.1 mg/dL
   23 mEq/L
   4.5 mEq/L
   72 mg/dL
   91 mEq/L
   130 mEq/L
   27.2 %
   8.9 K/uL
        [image002.jpg]
                            [**2118-1-13**]  05:23 AM
                            [**2118-1-13**]  08:28 AM
                            [**2118-1-13**]  04:37 PM
                            [**2118-1-13**]  10:56 PM
                            [**2118-1-14**]  04:40 AM
                            [**2118-1-14**]  06:52 AM
                            [**2118-1-14**]  07:39 AM
                            [**2118-1-14**]  04:00 PM
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
   WBC
   13.4
   8.9
   Hct
   28.4
   23.9
   24.1
   24.8
   21.5
   27.3
   27.2
   Plt
   106
   107
   Cr
   3.3
   3.7
   3.9
   4.3
   5.1
   TCO2
   24
   23
   29
   Glucose
   110
   149
   115
   91
   115
   Other labs: PT / PTT / INR:12.9/29.8/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/1.1, Differential-Neuts:96.0 %,
   Lymph:1.8 %, Mono:1.8 %, Eos:0.2 %, Fibrinogen:662 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:591 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:6.8 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] concerned due to weakness
   likely steroid myopathy. Evidence of patchy opacities consistent with
   aspiration s/p reintubation. RSBI now 63 but still not clear whether
   she would be able to get the strength to be extubated again. We have
   decreased steroid dosing with the hopes of improving strength but have
   to balance this vs. her hematologic issues, so we are not advancing the
   taper further yet.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage. Heparin
   off.
   * ACUTE LUNG INJURY: completed course for serratia with levofloxacin
   -- culture if spikes
   * MECHANICAL VENTILATION
   -- In theory she should get trach and PEG b/c of lengthy intubation
   (day [**1-15**] today); however, we share the concern that were she to have
   uncontrolled bleeding a trach could be very risky for her and for her
   the benefits of staying on an ETT outweigh the risks.
   -- Continuing PS, can try to wean down PEEP and PS further from here
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   remain negative for acute processes. Picture seems more consistent with
   metabolic encephalopathy but she is being dialyzed and has no clear
   infectious process so the source of this would be unclear. MRI and
   C-spine are essentially unrevealing with non-specific abnormalities
   that seem unlikely to explain the global nature of her deficits.
   - continue to monitor neurologic exam
   - wean steroids per our discussions with our valued consulting teams
   - still holding psych meds for now
   - follow metabolic labs, intermittently follow liver labs
   ABDOMINAL Ileus:  Stooling. No residuals. Back on fentanyl so starting
   naloxone OG again.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; reduced dose as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today.
   -          continue steroid tx at reduced dose
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - goal BP <160
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: Still holding psych meds to simplify regimen.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-14**] 07:00 PM 20 mL/hour
   Glycemic Control:  per ICU protocol
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  oral care, HOB, etc
   Comments:
   Communication:  Comments:  with sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2118-01-16 07:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo F w/complicated PMH of SLE, ESRD s/p renal transplant, APLAS,
   TMA, TPAi deficiency and resulting bleeding diathesis p/w failure of
   transplanted kidney, new hemolysis. Course c/b DAH and resulting ARDS;
   extubated and re-intubated [**1-14**].
   24 Hour Events:
   Hypertensive and agitated overnight (fentanyl gtt had been stopped)-
   reported pain so given fentanyl boluses and propofol also increased.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Prevacid
   Other medications:
   Insulin SS
   Cellcept
   Prednisone 40mg qd
   Lopressor 25mg po q6hr
   Captopril 25mg pot id
   Po narcan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-16**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 64 (54 - 101) bpm
   BP: 126/74(86) {112/64(75) - 182/113(125)} mmHg
   RR: 16 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,633 mL
                                                                    431 mL
   PO:
             TF:
                                                                    423 mL
                                                                     11 mL
   IVF:
                                                                    651 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  3,038 mL
                                                                     11 mL
   Urine:
                                                                     38 mL
                                                                     11 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,405 mL
                                                                    420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (360 - 760) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.2 L/min
   Physical Examination
   Intubated and sedated, opens eyes to voice, not following commands
   CTA on L anteriorly, rhonchi on R anteriorly
   Nl s1s2, regular, no m/r/g
   Abd soft, NT, ND, +BS
   Ext warm, no significant edema, improved (decreased) LE tone b/l
   Labs / Radiology
   10.8 g/dL
   123 K/uL
   88 mg/dL
   3.4 mg/dL
   21 mEq/L
   3.3 mEq/L
   43 mg/dL
   90 mEq/L
   129 mEq/L
   29.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2118-1-13**]  04:37 PM
                            [**2118-1-13**]  10:56 PM
                            [**2118-1-14**]  04:40 AM
                            [**2118-1-14**]  06:52 AM
                            [**2118-1-14**]  07:39 AM
                            [**2118-1-14**]  04:00 PM
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
   WBC
   13.4
   8.9
   8.5
   Hct
   28.4
   23.9
   24.1
   24.8
   21.5
   27.3
   27.2
   30.6
   29.4
   Plt
   106
   107
   123
   Cr
   3.3
   3.7
   3.9
   4.3
   5.1
   3.4
   TCO2
   29
   Glucose
   110
   149
   115
   91
   115
   88
   Other labs: PT / PTT / INR:13.3/29.5/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/1.1, Differential-Neuts:96.0 %,
   Lymph:1.8 %, Mono:1.8 %, Eos:0.2 %, Fibrinogen:662 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:591 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:9.2 mg/dL
   TSH, B12 nl
   No new micro
   Portable CXR
 pending
   Assessment and Plan
   Briefly, 54 yo F w/PMHx of SLE, ESRD s/p renal transplant, APLAS, TMA,
   TPAi deficiency and resulting bleeding diathesis p/w failure of
   transplanted kidney, new hemolysis. Course c/b DAH and resulting ARDS.
   s/p failed extubation [**1-14**] likely secondary to weakness and possible
   aspiration/mucous plugging.
   -Hemolysis- Hct stable on past several checks, follow Hct/smear/LDH, tf
   for Hct <25.
   -Respiratory failure- she is currently stable on the vent w/minimal
   support needs (on PS 10/5).  Will likely need tracheostomy (would need
   to be open trach per IP) given unlikely to wean w/weakness presumed
   steroid myopathy (+poor MS), but high risk for bleeding w/hematologic
   abnl. Will try to wean PS today as tolerated.  Check NIF to document
   resp m weakness.
   -Altered mental status- recent MRI brain negative for bleed/infarct.
   Maybe partially sedation related, will try to wean propofol today.
   Will d/w psych restarting her antipsychotic to help w/agitation while
   weaning sedation.  No clear source of infection or electrolyte abnl to
   explain delta MS.
   [**Name14 (STitle) 7017**]- sig component of myopathy, tapering steroids. Brain/c-spine
   MRI negative so doubt central component to her weakness.  Will check
   NIF as above.
   -APLAS- Anticoagulation on hold indefinitely as has not tolerated from
   bleeding standpoint.
   -Ileus- increased residuals last night, requiring TF to be held.  Cont
   po narcan, add standing lactulose.
   -FEN- keep TF at slow rate given residuals.
   -Renal failure, anuric- cont HD, tapering steroids, cont cellcept,
   renal following.
   AG ~20, likely [**3-6**] renal failure but will check lactate.
   Hyponatremia likely hypervolemic [**3-6**] renal failure, stable.
   -HTN- cont BB and ACEI for goal SBP<160- on current regimen, BP only
   >160 when in pain/agitated.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-16**] 06:30 AM 10 mL/hour
   Glycemic Control:  Insulin SS
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Prevacid
   VAP:
   Comments:
   Communication:  Comments: Plan for family meeting [**1-17**] at 1:30pm
   Code status: Full code
   Disposition :  ICU
   Critically ill
   Total time spent: 30min

2118-01-16 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Good alertness
   Tried to minimize sedation
   Some high blood pressure and apparent pain overnight; tried fentanyl
   boluses as a way of treating pain while not buildiing up enduring
   sedative medications.
   History obtained from Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley, Dialysis
   Flowsheet Data as of  [**2118-1-16**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 64 (54 - 101) bpm
   BP: 126/74(86) {112/64(75) - 182/113(125)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,633 mL
                                                                    447 mL
   PO:
             TF:
                                                                    423 mL
                                                                     15 mL
   IVF:
                                                                    651 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  3,038 mL
                                                                     11 mL
   Urine:
                                                                     38 mL
                                                                     11 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,405 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 369 (360 - 760) mL
   PS : 10 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   10.8 g/dL
   88 mg/dL
   3.4 mg/dL
   21 mEq/L
   3.3 mEq/L
   43 mg/dL
   90 mEq/L
   129 mEq/L
   29.4 %
   8.5 K/uL
        [image002.jpg]
                            [**2118-1-13**]  04:37 PM
                            [**2118-1-13**]  10:56 PM
                            [**2118-1-14**]  04:40 AM
                            [**2118-1-14**]  06:52 AM
                            [**2118-1-14**]  07:39 AM
                            [**2118-1-14**]  04:00 PM
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
   WBC
   13.4
   8.9
   8.5
   Hct
   28.4
   23.9
   24.1
   24.8
   21.5
   27.3
   27.2
   30.6
   29.4
   Plt
   106
   107
   123
   Cr
   3.3
   3.7
   3.9
   4.3
   5.1
   3.4
   TCO2
   29
   Glucose
   110
   149
   115
   91
   115
   88
   Other labs: PT / PTT / INR:13.3/29.5/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/1.1, Differential-Neuts:96.0 %,
   Lymph:1.8 %, Mono:1.8 %, Eos:0.2 %, Fibrinogen:662 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:591 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:9.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] concerned due to weakness
   likely steroid myopathy. Evidence of patchy opacities consistent with
   aspiration s/p reintubation. RSBI 71, similar to yesterday (63), but
   still not clear whether she would be able to get the strength to be
   extubated again. We have decreased steroid dosing with the hopes of
   improving strength but have to balance this vs. her hematologic issues,
   so we are not advancing the taper further yet.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage. Heparin
   off.
   * ACUTE LUNG INJURY: completed course for serratia with levofloxacin
   -- culture if spikes
   * MECHANICAL VENTILATION
   -- In theory she should get trach and PEG b/c of lengthy intubation
   (day 13-14 today); however, we share the concern that were she to have
   uncontrolled bleeding a trach could be very risky for her and for her
   the benefits of staying on an ETT may outweigh the risks.
   -- Discuss trach+PEG planning and contingency plans with IP and
   thoracics
   -- Continuing PS, can try to wean down PEEP and PS further from here
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - continue to monitor neurologic exam
   - wean steroids per our discussions with our valued consulting teams
   - still holding psych meds for now, but as below will consider
   restarting
   - follow metabolic labs, intermittently follow liver labs
   ABDOMINAL Ileus:  Stooling. No residuals. With fentanyl have added
   naloxone; trying to minimize fentanyl exposure with boluses.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; reduced dose as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today.
   -          continue steroid tx at reduced dose
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - goal BP <160
   HYPONATREMIA AND ANION GAP
   Most likely secondary to renal failure, fluid shifts.
   -          Check lactate today to r/o lactic acidosis
   -          Continue to emphasize putting meds in normal saline to
   reduce amount of free water given
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: Have been holding psych meds to simplify regimen.
   Possible that mental status will improve if we uptitrate these meds.
   Will endeavor to discuss this with her outpatient psychiatrist and/or
   psych c/s here.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-16**] 06:30 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:  VAP bundle
   Comments:
   Communication:  sister
   [**Name (NI) 66**] status: Full code
   Disposition: ICU

2118-01-17 07:36:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder; pulmonary
   hemorrhage; failure to wean from ventilator
   24 Hour Events:
   Family on board MTG Monday 1:30pm
   Stabilization of HCT
   Thoracic surgery consulted re: trach
   Hyponatremia responded to 1 liter NS, then fell again, patient making
   very little urine but is wasting NA is that urine and does not have
   functional tubules
   Vent weaned to [**6-7**], but patient more HTN on these setings
   FYI Cellcept in D5W but only 340 ml per day given -- not a reason for
   hyponatremia
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2118-1-17**] 01:38 AM
   Fentanyl - [**2118-1-17**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley, Dialysis
   Flowsheet Data as of  [**2118-1-17**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 67 (62 - 95) bpm
   BP: 114/57(70) {103/47(61) - 172/91(109)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  2,523 mL
                                                                    391 mL
   PO:
             TF:
                                                                    135 mL
   IVF:
                                                                  1,928 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                     44 mL
                                                                      5 mL
   Urine:
                                                                     34 mL
                                                                      5 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,479 mL
                                                                    386 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (290 - 660) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 7 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   11.2 g/dL
   77 mg/dL
   4.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   62 mg/dL
   87 mEq/L
   123 mEq/L
   31.0 %
   7.1 K/uL
        [image002.jpg]
                            [**2118-1-14**]  07:39 AM
                            [**2118-1-14**]  04:00 PM
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
   WBC
   8.9
   8.5
   7.1
   Hct
   24.8
   21.5
   27.3
   27.2
   30.6
   29.4
   22.5
   32.5
   31.0
   Plt
   107
   123
   134
   Cr
   3.9
   4.3
   5.1
   3.4
   4.0
   4.3
   4.3
   Glucose
   115
   91
   115
   88
   121
   80
   77
   Other labs: PT / PTT / INR:12.3/32.9/1.0, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/1.1, Differential-Neuts:87.6 %,
   Lymph:6.0 %, Mono:3.9 %, Eos:2.4 %, Fibrinogen:662 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:669 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] concerned due to weakness
   likely steroid myopathy. Evidence of patchy opacities consistent with
   aspiration s/p reintubation. RSBI 71, similar to yesterday (63), but
   still not clear whether she would be able to get the strength to be
   extubated again. We have decreased steroid dosing with the hopes of
   improving strength but have to balance this vs. her hematologic issues,
   so we are not advancing the taper further yet.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage. Heparin
   off.
   * ACUTE LUNG INJURY: completed course for serratia with levofloxacin
   -- culture if spikes
   * MECHANICAL VENTILATION
   -- In theory she should get trach and PEG b/c of lengthy intubation
   (day 13-14 today); however, we share the concern that were she to have
   uncontrolled bleeding a trach could be very risky for her and for her
   the benefits of staying on an ETT may outweigh the risks.
   -- Discuss trach+PEG planning and contingency plans with IP and
   thoracics
   -- Continuing PS, can try to wean down PEEP and PS further from here
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - continue to monitor neurologic exam
   - wean steroids per our discussions with our valued consulting teams
   - still holding psych meds for now, but as below will consider
   restarting
   - follow metabolic labs, intermittently follow liver labs
   ABDOMINAL Ileus:  Stooling. No residuals. With fentanyl have added
   naloxone; trying to minimize fentanyl exposure with boluses.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; reduced dose as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today.
   -          continue steroid tx at reduced dose
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - goal BP <160
   HYPONATREMIA AND ANION GAP
   Most likely secondary to renal failure, fluid shifts.
   -          Check lactate today to r/o lactic acidosis
   -          Continue to emphasize putting meds in normal saline to
   reduce amount of free water given
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: Have been holding psych meds to simplify regimen.
   Possible that mental status will improve if we uptitrate these meds.
   Will endeavor to discuss this with her outpatient psychiatrist and/or
   psych c/s here.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2118-01-17 10:57:00 Physician Attending Progress Note
Chief Complaint: Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 54 year old woman with
   PMH of SLE, TMA, renal failure s/p renal transplant who preseted with
   new renal failure, hemolysis, course c/b by hypoxemic respiratory
   failure. Now failed extubation x 1.
   24 Hour Events:
   Thoracic surgery consulted re: open trach.
   Ongoing hyponatremia
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2118-1-17**] 01:38 AM
   Fentanyl - [**2118-1-17**] 04:00 AM
   Lansoprazole (Prevacid) - [**2118-1-17**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-17**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 81 (62 - 95) bpm
   BP: 149/72(91) {103/47(61) - 172/91(109)} mmHg
   RR: 18 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  2,523 mL
                                                                    499 mL
   PO:
             TF:
                                                                    135 mL
   IVF:
                                                                  1,928 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                     44 mL
                                                                     18 mL
   Urine:
                                                                     34 mL
                                                                     18 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,479 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (290 - 660) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   134 K/uL
   77 mg/dL
   4.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   62 mg/dL
   87 mEq/L
   123 mEq/L
   31.0 %
   7.1 K/uL
        [image002.jpg]
                            [**2118-1-14**]  07:39 AM
                            [**2118-1-14**]  04:00 PM
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
   WBC
   8.9
   8.5
   7.1
   Hct
   24.8
   21.5
   27.3
   27.2
   30.6
   29.4
   22.5
   32.5
   31.0
   Plt
   107
   123
   134
   Cr
   3.9
   4.3
   5.1
   3.4
   4.0
   4.3
   4.3
   Glucose
   115
   91
   115
   88
   121
   80
   77
   Other labs: PT / PTT / INR:12.3/32.9/1.0, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/1.1, Differential-Neuts:87.6 %,
   Lymph:6.0 %, Mono:3.9 %, Eos:2.4 %, Fibrinogen:662 mg/dL, Lactic
   Acid:0.8 mmol/L, Albumin:3.1 g/dL, LDH:669 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
   54 year old woman with PMH SLE, TMA, renal failure, and respiratory
   failure . Continues with fairly minimal vent settings, clear imaging,
   and acceptable RISBI.
   Still with substantial weakness on exam and suspected steroid myopathy.
   Weaninf prednisone as rapidly as practical in the setting of low level
   ongoing hemolysis. Failed relatively quickly with trial of extubation
   last week. Would favor tracheostomy over addtional attempt at
   extubation despite favorable numbers. She has an indication for
   anticoagulation (antiphospholipid ab) but bleeding risk remains
   unacceptably high based on events during this ICU stay. Will check NIF
   today on minimal sedation and pursue tracheostomy with thoracics.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: Tolerating tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family meeting this afternoon.
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-18 07:44:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder, s/p pulmonary
   hemorrhage, weakness and difficulty weaning from vent
   24 Hour Events:
   - Family meeting with agreement for tracheostomy
   - NPO past MN for tracheostomy today
   - Changed cellcept from IV to PO
   - Restarted ziprasidone (Geodon)
   History obtained from Medical records
   Patient unable to provide history: vented, difficulty w interaction
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2118-1-17**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2118-1-18**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 73 (68 - 103) bpm
   BP: 128/64(77) {112/50(65) - 165/108(118)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 50 kg
             Total In:
                                                                  1,000 mL
                                                                    512 mL
   PO:
             TF:
                                                                    118 mL
                                                                      1 mL
   IVF:
                                                                    592 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    120 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   120 mL
   Drains:
   Balance:
                                                                    940 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (390 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 10.7 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   10.2 g/dL
   79 mg/dL
   5.7 mg/dL
   16 mEq/L
   4.5 mEq/L
   84 mg/dL
   85 mEq/L
   124 mEq/L
   28.4 %
   4.7 K/uL
        [image002.jpg]
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
   WBC
   8.9
   8.5
   7.1
   4.7
   Hct
   27.3
   27.2
   30.6
   29.4
   22.5
   32.5
   31.0
   28.4
   Plt
   107
   123
   134
   132
   Cr
   5.1
   3.4
   4.0
   4.3
   4.3
   4.9
   5.7
   Glucose
   115
   88
   121
   80
   77
   100
   79
   Other labs: PT / PTT / INR:12.7/34.3/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:9.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-14**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-01-18 11:04:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, hemolysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly,54  year old woman with
   PMH SLE, TMA, ESRD s/p renal transplant, anti-phospholipid Ab syndrome
   presents with thrombocytopenia, hemolysis. Course c/b by hypoxemic
   respiratory failure [**3-6**] DAH. Now on min. vent settings but failed
   extubation x 1 and likely going for trach today.
   24 Hour Events:
   family meeting yesterday - to go for trach today
   cellcelpt changed to po
   started on geodon
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-18**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 97 (68 - 103) bpm
   BP: 166/84(104) {112/50(65) - 180/108(118)} mmHg
   RR: 26 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 50 kg
             Total In:
                                                                  1,000 mL
                                                                    625 mL
   PO:
             TF:
                                                                    118 mL
                                                                      1 mL
   IVF:
                                                                    592 mL
                                                                    354 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    170 mL
   Urine:
                                                                     60 mL
                                                                     50 mL
   NG:
   Stool:
   120 mL
   Drains:
   Balance:
                                                                    940 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (390 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: ///16/
   Ve: 9.8 L/min
   Physical Examination
   Lungs clear. Small amount of tan secretions. Abd soft, slightly
   distended, ND. Turns toward voice. Moved fingers and raised hands on
   command, but this is intermittent- sometimes does not follow commands.
   No rash. No inflamed joints. Line sites clean and dry.
   Labs / Radiology
   10.2 g/dL
   132 K/uL
   79 mg/dL
   5.7 mg/dL
   16 mEq/L
   4.5 mEq/L
   84 mg/dL
   85 mEq/L
   124 mEq/L
   28.4 %
   4.7 K/uL
        [image002.jpg]
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
   WBC
   8.9
   8.5
   7.1
   4.7
   Hct
   27.3
   27.2
   30.6
   29.4
   22.5
   32.5
   31.0
   28.4
   Plt
   107
   123
   134
   132
   Cr
   5.1
   3.4
   4.0
   4.3
   4.3
   4.9
   5.7
   Glucose
   115
   88
   121
   80
   77
   100
   79
   Other labs: PT / PTT / INR:12.7/34.3/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:9.8 mg/dL
   Assessment and Plan
   54 year old woman with complicated coagulopathy, respiratory failure
   [**3-6**] DAH and now profound weakness. Weakness thought secondary to
   steroid/ICU myopathy. Now weaning steroids. Plan had been for
   tracheostomy today but spiked fever. Pancx and started on empiric abx.
   I am concerned about potential VAP, though CXR not suggestive yet.
   I believe she remains too high risk for anticoagulation at this time
   given multiple bleeding complications during this admit
   but LDH trending down, Plts trending up so may be able to re-introduce
   heparin at some point post-trach. Continues on HD.  Further plans as
   per resident note.
   ICU Care
   Nutrition:
   restart as trach on hold
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-01-18 11:29:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder-->renal failure,
   pulmonary hemorrhage-->respiratory failure; inability to wean from vent
   24 Hour Events:
   - Family meeting with agreement for tracheostomy
   - NPO past MN for tracheostomy today
   - Changed Cellcept from IV to PO
   - Restarted Geodon
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Restarting ziprasidone (Geodon)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia, Coagulopathy
   Psychiatric / Sleep: Delirious, likely delirious though difficult to
   assess
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-18**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 96 (68 - 103) bpm
   BP: 155/76(94) {112/50(65) - 180/108(118)} mmHg
   RR: 27 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 50 kg
             Total In:
                                                                  1,000 mL
                                                                    635 mL
   PO:
             TF:
                                                                    118 mL
                                                                      1 mL
   IVF:
                                                                    592 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    170 mL
   Urine:
                                                                     60 mL
                                                                     50 mL
   NG:
   Stool:
   120 mL
   Drains:
   Balance:
                                                                    940 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (390 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: ///16/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : in
   limited anterior exam)
   Abdominal: Soft, Bowel sounds present, Distended, quiet bowel sounds
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash: in limited exam, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli; looks at examiner, raised hand when asked to move
   thumbs/wiggle fingers, no clear responses to questions (no headshake,
   nod, deliberate-appearing blinking, etc), Movement: Purposeful; moves
   hands; moves head to track voice, Tone: Not assessed
   Labs / Radiology
   132 K/uL
   10.2 g/dL
   79 mg/dL
   5.7 mg/dL
   16 mEq/L
   4.5 mEq/L
   84 mg/dL
   85 mEq/L
   124 mEq/L
   28.4 %
   4.7 K/uL
        [image002.jpg]
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
   WBC
   8.9
   8.5
   7.1
   4.7
   Hct
   27.3
   27.2
   30.6
   29.4
   22.5
   32.5
   31.0
   28.4
   Plt
   107
   123
   134
   132
   Cr
   5.1
   3.4
   4.0
   4.3
   4.3
   4.9
   5.7
   Glucose
   115
   88
   121
   80
   77
   100
   79
   Other labs: PT / PTT / INR:12.7/34.3/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:9.8 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. RSBI . We have decreased steroid
   dosing with the hopes of improving strength and are tapering further
   today to 20 mg.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin off.
   * MECHANICAL VENTILATION
   We are planning to proceed with trach given that risk of reintubation
   is also considerable, and we can not reliably say she would be able to
   wean from the vent. Therefore trach in the OR in a controlled setting
   is likely safer. We will discuss with thoracics, her renal MD, and her
   family today.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - tapering steroids as above
   - minimize sedation, frequent wake-ups
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   ABDOMINAL Ileus:  Stooling. Minimal residuals. Continuing nalaxone,
   lactulose.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; reduced dose as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule but as below consider
   more frequent dialysis given apparent acidemia and hyponatremia
   - VBG and lytes after rounds
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today.
   -          continue steroid tx at reduced dose
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - goal BP <160
   HYPONATREMIA AND ANION GAP
   Most likely secondary to renal failure, fluid shifts.
   -          Lactate was negative; no evidence of lactic acidosis
   -          Continue to emphasize putting meds in normal saline to
   reduce amount of free water given
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: Restarting ziprasidone. Might consider a stimulant
   as a next step; anti-depressants unlikely to be helpful in current
   course although her bupropion could conceivably have an activating
   effect.
   ICU Care
   Nutrition:
   Comments: on tube feeds; holding today for trach in OR; has had some
   residuals; will follow and increase bowel regimen, narcan, erythromycin
   as needed
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None; holding )
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: family mtg yesterday
   Code status: Full code
   Disposition:

2118-01-18 16:56:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder-->renal failure,
   pulmonary hemorrhage-->respiratory failure; inability to wean from vent
   24 Hour Events:
   - Family meeting with agreement for tracheostomy
   - NPO past MN for tracheostomy today
   - Changed Cellcept from IV to PO
   - Restarted Geodon
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Restarting ziprasidone (Geodon)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Anemia, Coagulopathy
   Psychiatric / Sleep: Delirious, likely delirious though difficult to
   assess
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-18**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 96 (68 - 103) bpm
   BP: 155/76(94) {112/50(65) - 180/108(118)} mmHg
   RR: 27 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 50 kg
             Total In:
                                                                  1,000 mL
                                                                    635 mL
   PO:
             TF:
                                                                    118 mL
                                                                      1 mL
   IVF:
                                                                    592 mL
                                                                    363 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    170 mL
   Urine:
                                                                     60 mL
                                                                     50 mL
   NG:
   Stool:
   120 mL
   Drains:
   Balance:
                                                                    940 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (390 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 12 cmH2O
   SpO2: 97%
   ABG: ///16/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : in
   limited anterior exam)
   Abdominal: Soft, Bowel sounds present, Distended, quiet bowel sounds
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, No(t) Rash: in limited exam, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli; looks at examiner, raised hand when asked to move
   thumbs/wiggle fingers, no clear responses to questions (no headshake,
   nod, deliberate-appearing blinking, etc), Movement: Purposeful; moves
   hands; moves head to track voice, Tone: Not assessed
   Labs / Radiology
   132 K/uL
   10.2 g/dL
   79 mg/dL
   5.7 mg/dL
   16 mEq/L
   4.5 mEq/L
   84 mg/dL
   85 mEq/L
   124 mEq/L
   28.4 %
   4.7 K/uL
        [image002.jpg]
                            [**2118-1-14**]  11:54 PM
                            [**2118-1-15**]  03:00 AM
                            [**2118-1-15**]  03:44 PM
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
   WBC
   8.9
   8.5
   7.1
   4.7
   Hct
   27.3
   27.2
   30.6
   29.4
   22.5
   32.5
   31.0
   28.4
   Plt
   107
   123
   134
   132
   Cr
   5.1
   3.4
   4.0
   4.3
   4.3
   4.9
   5.7
   Glucose
   115
   88
   121
   80
   77
   100
   79
   Other labs: PT / PTT / INR:12.7/34.3/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:9.8 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. RSBI . We have decreased steroid
   dosing with the hopes of improving strength; we will titrate down
   further; going to 10 mg daily starting in the AM.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin off.
   * MECHANICAL VENTILATION
   We are planning to proceed with trach given that risk of reintubation
   is also considerable, and we can not reliably say she would be able to
   wean from the vent. Therefore trach in the OR in a controlled setting
   is likely safer. Plan for thoracics to do this today after family
   meeting yesterday to discuss.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - tapering steroids as above
   - minimize sedation, frequent wake-ups
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   - follow metabolic labs, continue HD; I see no pattern in mental status
   pre- and post-HD so renal failure not likely a major contributor, but
   continue to follow this
   - hyponatremia has been marked for some time now; possible that
   improving this will improve mental status; see below
   ABDOMINAL ILEUS:  Some stool. Some residuals overnight. Continuing
   nalaxone, lactulose.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; continuing renal dose
   as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule but as below consider
   more frequent dialysis given apparent acidemia and hyponatremia
   - VBG and lytes after rounds
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today.
   -          continue steroid tx at reduced dose
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values; LDH continues to be stable or slightly declining
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - goal BP <160
   HYPONATREMIA
   Most likely secondary to renal failure, fluid shifts. Changed CellCept
   to PO. Hoping this plus continued HD will be helpful, may need to
   consider daily HD if hyponatremia does not improve as this may be
   contributing to mental status.
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: Restarting ziprasidone. Might consider a stimulant
   as a next step; anti-depressants unlikely to be helpful in current
   course although her bupropion could conceivably have an activating
   effect.
   ICU Care
   Nutrition:
   Comments: on tube feeds; holding today for trach in OR; has had some
   residuals; will follow and increase bowel regimen, narcan, erythromycin
   as needed
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None; holding )
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: family mtg yesterday
   Code status: Full code
   Disposition:

2118-01-19 08:56:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder -->pulmonary
   hemorrhage -->respiratory failure --> inability to wean
   24 Hour Events:
 BLOOD CULTURED - At [**2118-1-18**] 02:59 PM
 SPUTUM CULTURE - At [**2118-1-18**] 02:59 PM
 URINE CULTURE - At [**2118-1-18**] 03:00 PM
   Had temp of [**Age over 90 144**] yesterday afternoon; OR cancelled
   Started vanc/cipro/flagyl
   HD done
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-18**] 06:38 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2118-1-19**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.3
   HR: 84 (62 - 109) bpm
   BP: 136/63(78) {112/47(66) - 180/98(113)} mmHg
   RR: 15 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 50 kg
             Total In:
                                                                  1,478 mL
                                                                    296 mL
   PO:
             TF:
                                                                     39 mL
   IVF:
                                                                    809 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    274 mL
                                                                      0 mL
   Urine:
                                                                     74 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,204 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (300 - 414) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   9.8 g/dL
   89 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.1 mEq/L
   30 mg/dL
   93 mEq/L
   132 mEq/L
   26.6 %
   3.2 K/uL
        [image002.jpg]
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
   WBC
   8.5
   7.1
   4.7
   3.2
   Hct
   29.4
   22.5
   32.5
   31.0
   28.4
   28.2
   26.6
   Plt
   123
   134
   132
   135
   Cr
   3.4
   4.0
   4.3
   4.3
   4.9
   5.7
   2.5
   2.7
   3.1
   Glucose
   88
   121
   80
   77
   100
   79
   80
   103
   89
   Other labs: PT / PTT / INR:13.7/34.7/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 HYPERTENSION, BENIGN
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 ALTERATION IN TISSUE PERFUSION
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. RSBI . We have decreased steroid
   dosing with the hopes of improving strength; we will titrate down
   further; going to 10 mg daily starting in the AM.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin off.
   * MECHANICAL VENTILATION
   We are planning to proceed with trach given that risk of reintubation
   is also considerable, and we can not reliably say she would be able to
   wean from the vent. Therefore trach in the OR in a controlled setting
   is likely safer. Plan for thoracics to do this today after family
   meeting yesterday to discuss.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - tapering steroids as above
   - minimize sedation, frequent wake-ups
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   - follow metabolic labs, continue HD; I see no pattern in mental status
   pre- and post-HD so renal failure not likely a major contributor, but
   continue to follow this
   - hyponatremia has been marked for some time now; possible that
   improving this will improve mental status; see below
   ABDOMINAL ILEUS:  Some stool. Some residuals overnight. Continuing
   nalaxone, lactulose.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; continuing renal dose
   as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule but as below consider
   more frequent dialysis given apparent acidemia and hyponatremia
   - VBG and lytes after rounds
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today.
   -          continue steroid tx at reduced dose
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values; LDH continues to be stable or slightly declining
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - goal BP <160
   HYPONATREMIA
   Most likely secondary to renal failure, fluid shifts. Changed CellCept
   to PO. Hoping this plus continued HD will be helpful, may need to
   consider daily HD if hyponatremia does not improve as this may be
   contributing to mental status.
   ANEMIA
   Patient with known acute hemolytic anemia. LDH continuing to decline
   (highest was 2200).
   - Transfuse to keep Hct >25.
   - If bleeding, give FFP.
   - Guaiac stools
   DEPRESSION/ANXIETY: Restarting ziprasidone. Might consider a stimulant
   as a next step; anti-depressants unlikely to be helpful in current
   course although her bupropion could conceivably have an activating
   effect.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2118-01-19 11:18:00 Physician Attending Progress Note
Chief Complaint: Fatigue, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 54 year old woman with
   complex coagulopathy, hypoxemic respiratory failure [**3-6**] DAH, now with
   presistent vent dependece [**3-6**] ICU/steroid myopathy and awaiting trach.
   24 Hour Events:
   Trach post-poned [**3-6**] fever (Tm 101). Cultures pending, sputum gram
   stain with 4+ GNR.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-18**] 06:38 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-19**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.3
   HR: 84 (62 - 109) bpm
   BP: 136/63(78) {112/47(66) - 164/98(113)} mmHg
   RR: 15 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.6 kg (admission): 50 kg
             Total In:
                                                                  1,478 mL
                                                                    344 mL
   PO:
             TF:
                                                                     39 mL
   IVF:
                                                                    809 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                    274 mL
                                                                      0 mL
   Urine:
                                                                     74 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,204 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (300 - 339) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: left base)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   135 K/uL
   89 mg/dL
   3.1 mg/dL
   26 mEq/L
   3.1 mEq/L
   30 mg/dL
   93 mEq/L
   132 mEq/L
   26.6 %
   3.2 K/uL
        [image002.jpg]
                            [**2118-1-16**]  02:46 AM
                            [**2118-1-16**]  04:04 PM
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
   WBC
   8.5
   7.1
   4.7
   3.2
   Hct
   29.4
   22.5
   32.5
   31.0
   28.4
   28.2
   26.6
   Plt
   123
   134
   132
   135
   Cr
   3.4
   4.0
   4.3
   4.3
   4.9
   5.7
   2.5
   2.7
   3.1
   Glucose
   88
   121
   80
   77
   100
   79
   80
   103
   89
   Other labs: PT / PTT / INR:13.7/34.7/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.7 mg/dL
   Imaging: CXR with possible air bronchogram LLL
   Assessment and Plan
   54 year old woman with history as above, now with prolonged vent.
   dependence [**3-6**] critical illness/steroid myopathy now with new VAP.
   Awaiting
   tracesotomy, weaning steroids. Will start empiric VAP regimen of
   Vanc/[**Last Name (un) 430**]/cipro. Remains with indication for long term anticoagulation
   and plts and LDH
   have been stable indicated some decline in degree of TMA. However,
   given extensive bleeding complications during this ICU stay will
   continue to hold
   off on restarting heparin for now. Continues on HD. Further plans as
   per resident note.
   ICU Care
   Nutrition: TF on hold pending OR
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, Critical Ill
   Total time spent: 30

2118-01-20 08:41:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder --> pulm hemorrhage
   --> resp failure --> inability to wean
   24 Hour Events:
   Started Vanc/[**Last Name (un) **]/Cipro for VAP in LLL
   Trach delayed until today
   Prednisone weaned to 10 mg
   Hyponatremia remains significant issue
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-18**] 06:38 PM
   Ciprofloxacin - [**2118-1-19**] 08:00 PM
   Meropenem - [**2118-1-20**] 01:53 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2118-1-20**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 76 (66 - 80) bpm
   BP: 160/79(100) {109/54(67) - 162/81(102)} mmHg
   RR: 25 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,368 mL
                                                                    330 mL
   PO:
             TF:
                                                                    176 mL
   IVF:
                                                                    832 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                     23 mL
   Urine:
                                                                     20 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,348 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (311 - 475) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 6.9 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ),  limited anterior exam
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: in limited exam
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   157 K/uL
   8.8 g/dL
   76 mg/dL
   4.1 mg/dL
   22 mEq/L
   3.9 mEq/L
   49 mg/dL
   89 mEq/L
   126 mEq/L
   24.2 %
   3.1 K/uL
        [image002.jpg]
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
   WBC
   7.1
   4.7
   3.2
   3.1
   Hct
   32.5
   31.0
   28.4
   28.2
   26.6
   24.2
   Plt
   134
   132
   135
   157
   Cr
   4.3
   4.3
   4.9
   5.7
   2.5
   2.7
   3.1
   3.7
   4.1
   Glucose
   80
   77
   100
   79
   80
   103
   89
   83
   76
   Other labs: PT / PTT / INR:13.2/32.7/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:587 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. RSBI . We have decreased steroid
   dosing with the hopes of improving strength; we will titrate down
   further; going to 10 mg daily starting in the AM.
   * VENTILATOR-ACQUIRED PNEUMONIA: after 14+ days on vent, LLL
   consolidation after fever. Presumed ventilator-acquired pneumonia. No
   culture data yet.
   - Treating with vancomycin and meropenem and cipro.
   - Follow cultures closely to try to peel off antibiotics
   - Follow CXRs; stable to slightly improved today
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin still off.
   * MECHANICAL VENTILATION
   Trach today. As prior we believe that risk of reintubation is
   considerable, and we can not reliably say she would be able to wean
   from the vent. NIFs -17 x2 suggesting poor inspiratory strength.
   Deferred for infection x 2 days, but likely to be able to go to OR
   today. Appreciate thoracics involvement in this patient
s care.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - restarted ziprasidone
   - tapering steroids as above
   - minimize sedation, frequent wake-ups
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   - although metabolic changes do not seem to make major differences in
   mental status, a more sustained trial of daily dialysis might resolve
   hyponatremia over a more sustained period, would be helpful to know if
   this improved mental status
   ABDOMINAL ILEUS:  Stooling not recorded. Continuing nalaxone,
   lactulose. No tube feeds this AM for OR.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; continuing renal dose
   as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   - VBG and lytes after rounds
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today. Steadily declining Hct c/w ongoing slow
   hemolytic process.
   -          continue steroid tx at reduced dose (10 mg currently)
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values; LDH continues to be stable or slightly declining
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - dialysis regularly appears to be best anti-hypertensive measure
   - goal BP <160
   HYPONATREMIA
   Returns on non-HD days. Consider daily dialysis as above as trial to
   improve mental status.
   DEPRESSION/ANXIETY: Restarted ziprasidone.
   ICU Care
   Nutrition: holding tube feeds for OR
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  per VAP protocol
   Comments:
   Communication:  Comments: with family
   Code status: Full code
   Disposition: ICU

2118-01-20 10:42:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. 54 year old woman with complex
   coagulopathy s/p renal transplant now with new renal failure. Hypoxemic
   respiratory failure [**3-6**] DAH withprolonged vent dependence [**3-6**] myopathy
   and now new VAP.
   24 Hour Events:
   No events
   Anticipate trach today.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-18**] 06:38 PM
   Ciprofloxacin - [**2118-1-19**] 08:00 PM
   Meropenem - [**2118-1-20**] 01:53 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-20**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 74 (67 - 80) bpm
   BP: 122/63(77) {114/54(69) - 162/81(102)} mmHg
   RR: 17 (16 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,368 mL
                                                                    373 mL
   PO:
             TF:
                                                                    176 mL
   IVF:
                                                                    832 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                     20 mL
                                                                     30 mL
   Urine:
                                                                     20 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,348 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 337 (311 - 475) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   157 K/uL
   76 mg/dL
   4.1 mg/dL
   22 mEq/L
   3.9 mEq/L
   49 mg/dL
   89 mEq/L
   126 mEq/L
   24.2 %
   3.1 K/uL
        [image002.jpg]
                            [**2118-1-16**]  05:03 PM
                            [**2118-1-17**]  12:46 AM
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
   WBC
   7.1
   4.7
   3.2
   3.1
   Hct
   32.5
   31.0
   28.4
   28.2
   26.6
   24.2
   Plt
   134
   132
   135
   157
   Cr
   4.3
   4.3
   4.9
   5.7
   2.5
   2.7
   3.1
   3.7
   4.1
   Glucose
   80
   77
   100
   79
   80
   103
   89
   83
   76
   Other labs: PT / PTT / INR:13.2/32.7/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:553 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Imaging: Retrocardiac opacitiy
   Assessment and Plan
   54 year old woman with PMH as above now with persistent respiratory
   failure [**3-6**] myopathy and VAP. NIF -15 to -17 today and tidal volumes
   drop to < 200cc on 0/0.
   Anticipate trach today and prolonged vent wean. Increased secretions,
   fever, new CXR opacity 48 hours ago. Currently on empiric regimen of
   vanc/[**Last Name (un) 430**]/cipro with
   sputum culture pending. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: NPO for OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-21 07:58:00 Physician Resident Progress Note
Chief Complaint: complex bleeding/clotting disorder, renal failure -->
   pulm hemorrhage -->respiratory failure and vent dependence --> failure
   to wean
   24 Hour Events:
   - Plan for tracheostomy today
   - Sputum culture -> GNR awaiting speciation/sensitivities
   - Hematology noted increased schistocytes on smear
   - Hemodialysis yesterday
   - Vancomycin level high and dose held
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy,
   Unresponsive
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-18**] 06:38 PM
   Ciprofloxacin - [**2118-1-20**] 08:00 PM
   Meropenem - [**2118-1-21**] 04:00 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Genitourinary: Foley, Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-1-21**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 75 (74 - 98) bpm
   BP: 97/56(66) {96/47(60) - 160/86(100)} mmHg
   RR: 18 (16 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,348 mL
                                                                    426 mL
   PO:
             TF:
                                                                    173 mL
   IVF:
                                                                    935 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                      0 mL
   Urine:
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,197 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (324 - 428) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.8 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   limited anterior exam
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   9.7 g/dL
   88 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   27 mg/dL
   89 mEq/L
   128 mEq/L
   27.2 %
   4.2 K/uL
        [image002.jpg]
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
   WBC
   7.1
   4.7
   3.2
   3.1
   4.2
   Hct
   31.0
   28.4
   28.2
   26.6
   24.2
   29.1
   27.2
   Plt
   134
   132
   135
   157
   181
   Cr
   4.3
   4.9
   5.7
   2.5
   2.7
   3.1
   3.7
   4.1
   2.3
   2.8
   Glucose
   77
   100
   79
   80
   103
   89
   83
   76
   118
   88
   Other labs: PT / PTT / INR:13.6/34.2/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:578 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. We have decreased steroid dosing
   with the hopes of improving strength, continuing at 10 mg for now.
   * VENTILATOR-ACQUIRED PNEUMONIA: after 14+ days on vent, LLL
   consolidation after fever. Presumed ventilator-acquired pneumonia.
   Sputum showing GNRs without speciation yet
   - Treating with vancomycin, cipro Meropenem; pulling off vanco today
   - Continuing to follow cultures
   - Follow CXRs; stable to slightly improved today
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin still off.
   * MECHANICAL VENTILATION
   Trach today. As prior we believe that risk of reintubation is
   considerable, and we can not reliably say she would be able to wean
   from the vent. Repeated NIFs are <20 suggesting poor inspiratory
   strength. Deferred for infection x 2 days, but likely to be able to go
   to OR today. Appreciate thoracics involvement in this patient
s care.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - restarted ziprasidone
   - reduced steroids as above
   - minimize sedation, frequent wake-ups; should be able to reduce
   sedation with trach
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   - although metabolic changes do not seem to make major differences in
   mental status, a more sustained trial of daily dialysis might resolve
   hyponatremia over a more sustained period if mental status does not
   improve with trach and wake-ups
   ABDOMINAL ILEUS:  Continuing nalaxone, lactulose. No tube feeds this AM
   for OR.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; continuing renal dose
   as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today. Steadily declining Hct c/w ongoing slow
   hemolytic process.
   -          continue steroid tx at reduced dose (10 mg currently)
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values; LDH continues to be stable or slightly declining
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - dialysis regularly appears to be best anti-hypertensive measure
   - goal BP <160
   HYPONATREMIA
   Returns on non-HD days. In longer run could consider daily dialysis
   trial to see if improves mental status; no urgent need to do this yet.
   DEPRESSION/ANXIETY: Restarted ziprasidone.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU

2118-01-21 10:38:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 year old woman with PMH of SLE, complicated coaulopathy, ESRD s/p
   transplant admitted to the MICU with renal failure, hemolysis and
   respiratory failure [**3-6**] DAH. Now with persistent vent requirement [**3-6**]
   critical illnes myopathy.
   24 Hour Events:
   Anticipate trach today
   NIF 17 yesterday
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Vancomycin - [**2118-1-18**] 06:38 PM
   Ciprofloxacin - [**2118-1-20**] 08:00 PM
   Meropenem - [**2118-1-21**] 04:00 AM
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-21**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 86 (74 - 98) bpm
   BP: 116/53(69) {96/39(58) - 145/86(98)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,348 mL
                                                                    491 mL
   PO:
             TF:
                                                                    173 mL
   IVF:
                                                                    935 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  3,545 mL
                                                                      0 mL
   Urine:
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,197 mL
                                                                    491 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (324 - 428) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   181 K/uL
   88 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.5 mEq/L
   27 mg/dL
   89 mEq/L
   128 mEq/L
   27.2 %
   4.2 K/uL
        [image002.jpg]
                            [**2118-1-17**]  03:03 AM
                            [**2118-1-17**]  01:29 PM
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
   WBC
   7.1
   4.7
   3.2
   3.1
   4.2
   Hct
   31.0
   28.4
   28.2
   26.6
   24.2
   29.1
   27.2
   Plt
   134
   132
   135
   157
   181
   Cr
   4.3
   4.9
   5.7
   2.5
   2.7
   3.1
   3.7
   4.1
   2.3
   2.8
   Glucose
   77
   100
   79
   80
   103
   89
   83
   76
   118
   88
   Other labs: PT / PTT / INR:13.6/34.2/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:578 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   54 year old woman with PMH as above. Plan as per resident note.
   Briefly, persistent respiratory failure [**3-6**] myopathy. Prednisone weaned
   to 10,
   plan for trach today. VAP with sputum culture growing GNR. Will DC vanc
   today, cont. [**Last Name (un) 430**]/cipro pending sensitivities.
   ICU Care
   Nutrition:
   Comments: Tube feeds on hold for OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-22 08:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2118-1-21**] 02:51 PM
 OR RECEIVED - At [**2118-1-21**] 04:00 PM
   Trach tube placed w/o apparent complication
   RSBI failed quickly this AM (quickly tachypneic w meager tidal volumes
   per RT)
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-21**] 08:19 PM
   Meropenem - [**2118-1-22**] 04:18 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2118-1-22**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 80 (69 - 96) bpm
   BP: 133/71(85) {108/53(68) - 163/108(115)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  2,236 mL
                                                                    655 mL
   PO:
             TF:
                                                                    140 mL
                                                                    219 mL
   IVF:
                                                                  1,055 mL
                                                                    316 mL
   Blood products:
                                                                    801 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                    655 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 31.7 cmH2O/mL
   SpO2: 99%
   ABG: ///23/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   243 K/uL
   8.3 g/dL
   91 mg/dL
   3.8 mg/dL
   23 mEq/L
   2.9 mEq/L
   41 mg/dL
   85 mEq/L
   126 mEq/L
   27.0 %
   5.5 K/uL
        [image002.jpg]
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
                            [**2118-1-21**]  04:41 PM
                            [**2118-1-22**]  03:53 AM
   WBC
   4.7
   3.2
   3.1
   4.2
   5.5
   Hct
   28.4
   28.2
   26.6
   24.2
   29.1
   27.2
   27.0
   Plt
   132
   135
   157
   181
   227
   243
   Cr
   5.7
   2.5
   2.7
   3.1
   3.7
   4.1
   2.3
   2.8
   3.5
   3.8
   Glucose
   79
   80
   103
   89
   83
   76
   118
   88
   77
   91
   Other labs: PT / PTT / INR:13.4/32.5/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:593 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure.
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. We have decreased steroid dosing
   with the hopes of improving strength, continuing at 10 mg for now.
   * VENTILATOR-ACQUIRED PNEUMONIA: after 14+ days on vent, LLL
   consolidation after fever. Presumed ventilator-acquired pneumonia.
   Sputum showing GNRs without speciation yet
   - Treating with vancomycin, cipro Meropenem; pulling off vanco today
   - Continuing to follow cultures
   - Follow CXRs; stable to slightly improved today
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin still off.
   * MECHANICAL VENTILATION
   Trach today. As prior we believe that risk of reintubation is
   considerable, and we can not reliably say she would be able to wean
   from the vent. Repeated NIFs are <20 suggesting poor inspiratory
   strength. Deferred for infection x 2 days, but likely to be able to go
   to OR today. Appreciate thoracics involvement in this patient
s care.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - restarted ziprasidone
   - reduced steroids as above
   - minimize sedation, frequent wake-ups; should be able to reduce
   sedation with trach
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   - although metabolic changes do not seem to make major differences in
   mental status, a more sustained trial of daily dialysis might resolve
   hyponatremia over a more sustained period if mental status does not
   improve with trach and wake-ups
   ABDOMINAL ILEUS:  Continuing nalaxone, lactulose. No tube feeds this AM
   for OR.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; continuing renal dose
   as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding today. Steadily declining Hct c/w ongoing slow
   hemolytic process.
   -          continue steroid tx at reduced dose (10 mg currently)
   -          follow LDH and smears; appreciate heme/onc note that TMA may
   continue apace even with relatively moderate LDH compared to prior
   values; LDH continues to be stable or slightly declining
   -          Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - dialysis regularly appears to be best anti-hypertensive measure
   - goal BP <160
   HYPONATREMIA
   Returns on non-HD days. In longer run could consider daily dialysis
   trial to see if improves mental status; no urgent need to do this yet.
   DEPRESSION/ANXIETY: Restarted ziprasidone.
   (HUS/TTP)
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-21**] 06:25 PM 25 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-18**] 08:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU; start working towards plan for pulm rehab

2118-01-22 11:44:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 year old woman with complex coagulopathy and long ICU stay. Please
   see previous notes for details. Briefly, hx SLE, TMA as well as
   bleeding disorder, presented with resurgent TMA and acute renal
   failure, intubated for hypoxemic respiratory failure in the setting of
   DAH. Now with persistent vent requirement [**3-6**] ICU/steroid myopathy. S/P
   trach yesterday.
   24 Hour Events:
 OR SENT - At [**2118-1-21**] 02:51 PM
 OR RECEIVED - At [**2118-1-21**] 04:00 PM
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-21**] 08:19 PM
   Meropenem - [**2118-1-22**] 04:18 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-22**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 88 (69 - 96) bpm
   BP: 134/69(105) {113/59(72) - 163/108(115)} mmHg
   RR: 17 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  2,236 mL
                                                                    918 mL
   PO:
             TF:
                                                                    140 mL
                                                                    288 mL
   IVF:
                                                                  1,055 mL
                                                                    370 mL
   Blood products:
                                                                    801 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                    918 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 31.7 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 8.2 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   243 K/uL
   91 mg/dL
   3.8 mg/dL
   23 mEq/L
   2.9 mEq/L
   41 mg/dL
   85 mEq/L
   126 mEq/L
   27.0 %
   5.5 K/uL
        [image002.jpg]
                            [**2118-1-18**]  02:22 AM
                            [**2118-1-18**]  05:45 PM
                            [**2118-1-18**]  09:57 PM
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
                            [**2118-1-21**]  04:41 PM
                            [**2118-1-22**]  03:53 AM
   WBC
   4.7
   3.2
   3.1
   4.2
   5.5
   Hct
   28.4
   28.2
   26.6
   24.2
   29.1
   27.2
   27.0
   Plt
   132
   135
   157
   181
   227
   243
   Cr
   5.7
   2.5
   2.7
   3.1
   3.7
   4.1
   2.3
   2.8
   3.5
   3.8
   Glucose
   79
   80
   103
   89
   83
   76
   118
   88
   77
   91
   Other labs: PT / PTT / INR:13.4/32.5/1.1, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:593 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   54 year old woman with complex coagulopathy, intubated for hypoxemic
   respiratory failure [**3-6**] DAH, now with new VAP and persistent vent
   requirement [**3-6**]
   ICU/steroid myopathy. S/P trach yesterday. Now on PS 5/5, will DC
   sedtaion and try TM today - PS if she does not tolerate. Anticipate
   prolonged vent wean. On [**Last Name (un) 430**]/cipro
   for VAP with GNR's in the sputum. Awaiting final speciation/sensis.
   Anticipate HD today. Further plans as per resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-21**] 06:25 PM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-22**] 09:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2118-01-23 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Anxious and in pain in the afternoon -- restarted remeron and
   wellbutrin, started patient on low dose midazolam drip for anxiety and
   fentanyl as needed for pain
   - Sputum from [**1-19**] grew pan-sensitive Serratia
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-21**] 08:19 PM
   Meropenem - [**2118-1-22**] 04:18 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-23**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 108 (76 - 117) bpm
   BP: 139/63(79) {105/59(71) - 183/129(136)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,422 mL
                                                                    463 mL
   PO:
             TF:
                                                                    603 mL
                                                                    188 mL
   IVF:
                                                                    499 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,478 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 450 (430 - 450) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 14.6 L/min
   Physical Examination
   General Appearance: Anxious, mildly agitated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace edema
   Skin:  no new rashes
   Neurologic: Attentive, seems to track visually but this morning unable
   to respond to questions or follow simple commands. Profoundly weak.
   Labs / Radiology
   257 K/uL
   10.8 g/dL
   112 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.1 mEq/L
   23 mg/dL
   95 mEq/L
   134 mEq/L
   30.0 %
   10.7 K/uL
        [image002.jpg]
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
                            [**2118-1-21**]  04:41 PM
                            [**2118-1-22**]  03:53 AM
                            [**2118-1-22**]  05:33 PM
                            [**2118-1-23**]  12:00 AM
                            [**2118-1-23**]  05:24 AM
   WBC
   3.2
   3.1
   4.2
   5.5
   10.7
   Hct
   26.6
   24.2
   29.1
   27.2
   27.0
   30.9
   30.0
   Plt
   135
   157
   181
   227
   243
   257
   Cr
   3.1
   3.7
   4.1
   2.3
   2.8
   3.5
   3.8
   1.8
   2.8
   Glucose
   89
   83
   76
   118
   88
   77
   91
   104
   108
   112
   Other labs: PT / PTT / INR:14.2/33.7/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:678 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure
   RESPIRATORY FAILURE: failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. Trach placed yesterday with
   expectation of long weaning course. Decreased steroid dosing with the
   hopes of improving strength, continuing at 10 mg for now.
   * VENTILATOR-ACQUIRED PNEUMONIA: after 14+ days on vent, LLL
   consolidation after fever. Presumed ventilator-acquired pneumonia.
   Sputum showing GNRs without speciation yet. Treating with cipro/[**Last Name (un) 430**].
   Pulled vanco. Following cultures and CXRs.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin still off.
   * MECHANICAL VENTILATION
   Trach in place and doing well. Will allow for sustained spontaneous
   breathing trials with trach mask.
   ALTERED MENTAL STATUS: Mental status remains unclear. Myopathy likely
   contributing to muscular weakness/dysfunction. Myopathy alone may not
   be able to explain all of her apparent deficit, but MRI brain and spine
   are essentially unrevealing with non-specific abnormalities that seem
   unlikely to explain the global nature of her deficits.
   - restarted ziprasidone
   - reduced steroids as above
   - minimize sedation, frequent wake-ups; should be able to reduce
   sedation with trach
   - consider bolus pain treatment rather than ongoing sedation if patient
   appears uncomfortable
   - start slowly reintroducing her prior psych meds
   ABDOMINAL ILEUS:  Continuing nalaxone, Lactulose. Tube feeds back on.
   - instill lactulose, naloxone in OG tube
   - iv erythromycin as needed
   -cont  bowel regimen
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - appreciate renal input
   - continue steroids for renal and heme purposes; continuing renal dose
   as above
   - continue mycophenolate mofetil
   - continue with HD on Sat/Tues/Thurs schedule
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding recently. Steadily declining Hct c/w ongoing slow
   hemolytic process.
   - Continue steroid tx at reduced dose (10 mg currently)
   - Follow LDH and smears; appreciate heme/onc note that TMA may continue
   apace even with relatively moderate LDH compared to prior values; LDH
   continues to be stable or slightly declining
   - Hct, transfuse <25
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - cont metoprolol and captopril
   - continue hydral 10 mg IV prn
   - nitro drip if uncontrolled with standing and bolus meds
   - dialysis regularly appears to be best anti-hypertensive measure
   - goal BP <160
   HYPONATREMIA
   Returns on non-HD days. In longer run could consider daily dialysis
   trial to see if improves mental status; no urgent need to do this yet.
   DEPRESSION/ANXIETY: Restarted ziprasidone. Restart other psych meds one
   by one to assess impact
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-22**] 02:20 PM 25.[**Telephone/Fax (5) 7121**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   20 Gauge - [**2118-1-22**] 12:56 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2118-01-23 10:52:00 Physician Attending Progress Note
Chief Complaint: Dyspnea, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 year old woman with PMH of complicated coagulopathy in the midst of
   long hospital stay for renal failure and hypoxemic respiratory failure.
   Please see previous notes for details. Persistent vent requirement [**3-6**]
   steroid/ICU myopathy now s/p trach.
   24 Hour Events:
   Sig. anxiety o/n. Restared on Versed drip
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Ciprofloxacin - [**2118-1-21**] 08:19 PM
   Meropenem - [**2118-1-22**] 04:18 AM
   Infusions:
   Midazolam (Versed) - 3.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-23**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 100 (83 - 117) bpm
   BP: 86/43(53) {86/43(53) - 183/129(136)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,422 mL
                                                                    808 mL
   PO:
             TF:
                                                                    603 mL
                                                                    256 mL
   IVF:
                                                                    499 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -2,478 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 380 (380 - 380) mL
   Vt (Spontaneous): 339 (339 - 450) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 8.8 L/min
   Physical Examination
   Gen: sitting in bed, somnolent, not answering questions or following
   commands
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  warm, no rash
   Labs / Radiology
   10.8 g/dL
   257 K/uL
   112 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.1 mEq/L
   23 mg/dL
   95 mEq/L
   134 mEq/L
   30.0 %
   10.7 K/uL
        [image002.jpg]
                            [**2118-1-19**]  03:33 AM
                            [**2118-1-19**]  03:27 PM
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
                            [**2118-1-21**]  04:41 PM
                            [**2118-1-22**]  03:53 AM
                            [**2118-1-22**]  05:33 PM
                            [**2118-1-23**]  12:00 AM
                            [**2118-1-23**]  05:24 AM
   WBC
   3.2
   3.1
   4.2
   5.5
   10.7
   Hct
   26.6
   24.2
   29.1
   27.2
   27.0
   30.9
   30.0
   Plt
   135
   157
   181
   227
   243
   257
   Cr
   3.1
   3.7
   4.1
   2.3
   2.8
   3.5
   3.8
   1.8
   2.8
   Glucose
   89
   83
   76
   118
   88
   77
   91
   104
   108
   112
   Other labs: PT / PTT / INR:14.2/33.7/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:86.9 %,
   Lymph:6.3 %, Mono:3.6 %, Eos:3.0 %, Fibrinogen:565 mg/dL, Lactic
   Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:678 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Fluid analysis / Other labs: LDH stable
   Microbiology: sputum culture with pan-sensitive
   serratia
   Assessment and Plan
   54 year old woman with complex coagulopathy, intubated for hypoxemic
   respiratory failure [**3-6**] DAH, now with new VAP and persistent vent
   requirement [**3-6**] ICU/steroid myopathy.
   1.       Resp Failure: S/P trach. Alternating [**6-7**] with trach collar
   yesterday and doing very well on TM today.  . On [**Last Name (un) 430**]/cipro for for VAP
   with GNR's in the sputum. Awaiting final speciation/sensis.
   2.       ARF: s/p HD yesterday
   3.       Agitation: given benzos last nightand restarted on versed 4
   mg/hr  for severe agitation but now extremely somnolent. Wean benzo
   down.  Titrating home psych meds (remeron geodon) and trying to avoid
   sedating meds.
   4.       Coagulopathy PLts rising on stable steroid dosing. Oozing form
   trach but stable
 would not however try anticoag until well healed
   Further plans as per resident note
 reviewed and discussed on rounds.
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:
   Code status: Full code
   Disposition :ICU
 but may be OK for rehab soon once off drip sedation

2118-01-24 08:39:00 Physician Resident Progress Note
Chief Complaint: complex bleeding disorder --> pulm hemorrhage --> resp
   failure --> inability to wean
   24 Hour Events:
   - Discontinued meropenem
   - Titrated up geodon, remeron and added ativan PRN
   - SBP 80s after PRN hydralazine for SBP 170s -> given 500cc NS with
   good response
   History obtained from Patient
   Patient unable to provide history: difficulty w expression, interacting
   intermittently but making much more clear effort to communicate
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Meropenem - [**2118-1-22**] 04:18 AM
   Ciprofloxacin - [**2118-1-23**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2118-1-24**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 100 (78 - 117) bpm
   BP: 144/50(73) {82/40(50) - 176/103(113)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,551 mL
                                                                    788 mL
   PO:
             TF:
                                                                    489 mL
                                                                    215 mL
   IVF:
                                                                    462 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                  1,551 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 339) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   9.2 g/dL
   98 mg/dL
   4.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   45 mg/dL
   99 mEq/L
   135 mEq/L
   26.9 %
   9.4 K/uL
        [image002.jpg]
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
                            [**2118-1-21**]  04:41 PM
                            [**2118-1-22**]  03:53 AM
                            [**2118-1-22**]  05:33 PM
                            [**2118-1-23**]  12:00 AM
                            [**2118-1-23**]  05:24 AM
                            [**2118-1-23**]  03:02 PM
                            [**2118-1-24**]  03:51 AM
   WBC
   3.1
   4.2
   5.5
   10.7
   9.4
   Hct
   24.2
   29.1
   27.2
   27.0
   30.9
   30.0
   28.5
   26.9
   Plt
   157
   181
   227
   243
   257
   239
   Cr
   4.1
   2.3
   2.8
   3.5
   3.8
   1.8
   2.8
   4.2
   Glucose
   76
   118
   88
   77
   91
   104
   108
   112
   98
   Other labs: PT / PTT / INR:14.2/35.0/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:565 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:468 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   54 year old woman with respiratory failure, coagulopathy (TMA, PAI
   def.), and renal failure
   RESPIRATORY FAILURE: Failed extubation [**1-13**] most likely due to
   weakness, likely steroid myopathy. Tracheostomy placed [**1-21**] with
   expectation of long weaning course. Decreased steroid dosing with the
   hopes of improving strength, continuing at 10 mg for now.
   * VENTILATOR-ACQUIRED PNEUMONIA: Has ventilator-acquired pneumonia with
   sputum [**1-19**] showing pan-sensitive Serratia. Following cultures and
   CXRs. On ciprofloxacin
 will discontinue meropenem today given culture
   sensitivities.
   * PULMONARY HEMORRHAGE: No current evidence of new hemorrhage or [**Doctor Last Name **].
   Heparin still off.
   * MECHANICAL VENTILATION: Trach in place and doing well. Will allow for
   sustained spontaneous breathing trials with trach mask.
   ALTERED MENTAL STATUS/PSYCHIATRIC: MRI brain and spine are essentially
   unrevealing with non-specific abnormalities that seem unlikely to
   explain the global nature of her deficits.  She is on a number of
   psychiatric medications as an outpatient.  She was increasingly
   agitated overnight and placed on midazolam gtt.
   - Restarted ziprasidone [**1-17**]
 will titrate up today
   - Restarted restarted remeron and wellbutrin overnight
 will titrate
   up remeron today
   - Will give ativan 1 mg Q8H and titrate up as needed
   - Discontinue midazolam gtt now
   - Reduced steroids as above
   THROMBOTIC DISORDER WITH HEMOLYTIC ANEMIA, PAI inhibition. No
   significant bleeding recently. Steadily declining Hct c/w ongoing slow
   hemolytic process.
   - Continue steroids at reduced dose
 prednisone 10 mg daily
   indefinitely
   - Follow LDH and smears; appreciate heme/onc note that TMA may continue
   apace even with relatively moderate LDH compared to prior values; LDH
   continues to be stable or slightly declining
   - Monitor hematocrit and transfuse <25
   - Will not restart heparin gtt at this time given bleeding around
   tracheostomy site
   ACUTE ON CHRONIC RENAL FAILURE
   Graft damage due to thrombotic microangiopathy; no donor antibodies.
   Her transplanted kidney is likely not to recover function, but still
   continuing immune suppression against rejection for now
   - Appreciate renal input
   - Continue mycophenolate mofetil and prednisone
   - Continue with HD on Sat/Tues/Thurs schedule
   HYPERTENSION. Hypertensive at baseline, especially when having active
   thrombotic microangiopathy.  Also has h/o hypertensive crisis and
   seizures in the context of extreme hypertension.  BP improved control
   on captopril
   - Continue metoprolol and captopril
   - Continue hydral 10 mg IV prn for SBP > 160
   - Regular HD appears to be best anti-hypertensive measure
   HYPONATREMIA
   Returns on non-HD days. In longer run could consider daily dialysis
   trial to see if improves mental status; no urgent need to do this yet.
   ABDOMINAL ILEUS:  Resolved.
   -Continue  bowel regimen
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-23**] 06:11 PM 25.[**Telephone/Fax (5) 7134**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility

2118-01-24 10:41:00 Physician Attending Progress Note
Chief Complaint: dyspnea, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 year old woman with complicated hospital course as detailed in
   previous notes.
   24 Hour Events:
   Meropenem DC'd when GNR's in sputum returned as pan-sensitive serratia.
   Elevated BP yesterday
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   Rash;
   Penicillins
   Rash;
   Dicloxacillin
   Rash;
   Morphine
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown; dyston
   Reglan (Oral) (Metoclopramide Hcl)
   Unknown; parkin
   Last dose of Antibiotics:
   Meropenem - [**2118-1-22**] 04:18 AM
   Ciprofloxacin - [**2118-1-23**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-24**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 100 (78 - 108) bpm
   BP: 144/50(73) {82/40(50) - 176/103(113)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.1 kg (admission): 50 kg
             Total In:
                                                                  1,551 mL
                                                                    834 mL
   PO:
             TF:
                                                                    489 mL
                                                                    261 mL
   IVF:
                                                                    462 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                  1,551 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   239 K/uL
   98 mg/dL
   4.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   45 mg/dL
   99 mEq/L
   135 mEq/L
   26.9 %
   9.4 K/uL
        [image002.jpg]
                            [**2118-1-20**]  03:29 AM
                            [**2118-1-20**]  08:56 PM
                            [**2118-1-21**]  03:25 AM
                            [**2118-1-21**]  04:41 PM
                            [**2118-1-22**]  03:53 AM
                            [**2118-1-22**]  05:33 PM
                            [**2118-1-23**]  12:00 AM
                            [**2118-1-23**]  05:24 AM
                            [**2118-1-23**]  03:02 PM
                            [**2118-1-24**]  03:51 AM
   WBC
   3.1
   4.2
   5.5
   10.7
   9.4
   Hct
   24.2
   29.1
   27.2
   27.0
   30.9
   30.0
   28.5
   26.9
   Plt
   157
   181
   227
   243
   257
   239
   Cr
   4.1
   2.3
   2.8
   3.5
   3.8
   1.8
   2.8
   4.2
   Glucose
   76
   118
   88
   77
   91
   104
   108
   112
   98
   Other labs: PT / PTT / INR:14.2/35.0/1.2, CK / CKMB / Troponin-T:45//,
   ALT / AST:34/35, Alk Phos / T Bili:107/0.6, Differential-Neuts:83.0 %,
   Band:2.0 %, Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:565 mg/dL,
   Lactic Acid:0.6 mmol/L, Albumin:3.1 g/dL, LDH:468 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   I reviewed the relevant history, saw and examined the patient, and was
   physically present with the ICU team for the key portions of the
   services provided. I would emphasize and add the following points:
   54 with complex bleeding diathesis, SLE, TMA, ESRD s/p renal
   transplant, APLA syndrome, admitted with hypoxemic respiratory failure
   and hemolysis. Had failure to wean with serratia VAP. Trached on [**1-21**].
   Past 24 hours has tolerated trach mask. Exam notable for eyes open,
   alert variably following commands, lungs clear at bases bilaterally.
   Dialysis catheter site appears erythematous.
   Completing course of cipro from serratia VAP. On HD for ESRD.
   Significant steroid/ICU myopathy now tapered to 10mg prednisone.
   Agree with plan of transferring to a LTAC. Further plans as per
   resident note. Patient is critically ill.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2118-1-23**] 06:11 PM 25.[**Telephone/Fax (5) 7134**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2118-1-11**] 02:59 PM
   Dialysis Catheter - [**2118-1-12**] 03:24 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to rehab / long term care facility
   Total critical care  time spent: 36 minutes